2124-10-15 11:49:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient admitted with recurrent and persistent hypoxemia in the setting
   of recent infection.
   24 Hour Events:
 PICC LINE - START [**2124-10-14**] 10:00 PM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2124-10-15**] 01:00 AM
   Voriconazole - [**2124-10-15**] 01:00 AM
   Vancomycin - [**2124-10-15**] 08:48 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough, Dyspnea, Tachypnea
   Flowsheet Data as of  [**2124-10-15**] 11:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 86 (86 - 103) bpm
   BP: 100/55(80) {99/52(63) - 117/77(87)} mmHg
   RR: 19 (12 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.3 kg (admission): 69.3 kg
   Height: 61 Inch
             Total In:
             701 mL
   PO:
             TF:
   IVF:
   701 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                    324 mL
   Urine:
                                                                    700 mL
                                                                    324 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -700 mL
                                                                    377 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.40/70/57/38/14
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Patient with bilateral erythema and warmth
will need to
   demarcate to follow
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   231 K/uL
   200 mg/dL
   0.7 mg/dL
   38 mEq/L
   4.6 mEq/L
   17 mg/dL
   94 mEq/L
   139 mEq/L
   28.7 %
   5.4 K/uL
        [image002.jpg]
                            [**2124-10-14**]  08:50 PM
                            [**2124-10-14**]  11:16 PM
                            [**2124-10-15**]  04:02 AM
   WBC
   5.4
   Hct
   28.7
   Plt
   231
   Cr
   0.7
   TCO2
   46
   45
   Glucose
   200
   Other labs: PT / PTT / INR:10.8/23.5/0.9, Differential-Neuts:94.0 %,
   Band:0.0 %, Lymph:3.0 %, Mono:2.0 %, Eos:0.0 %, Ca++:8.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Fluid analysis / Other labs: 7.40/70/57 on 3 liters NC
   Imaging: CXR-Worsening left sided opacities noted
   Microbiology: BC-Pending
   Assessment and Plan
   58 yo male with significant history of CML--s/p BMT and now with recent
   admission with pneumonia and significant challenges in regards to
   maintenance of clearance of secretions with weakness and chest wall
   restriction/splinting with significant pain noted.  He did have recent
   discharge to rehab and was well informed, well skilled and compliant
   with interventions but now has had significant episode of hypoxemia
   noted with desaturation to 70% on room air and then was returned to [**Location **]
   for evaluation.  Patient given prednisone, Zosyn and Tobramycin and
   admit to ICU in the setting of new left sided opacity on CXR.
   1) HYPOXEMIA--This is most concerning for evidence of recurrent
   collapse in left lung which may be related to recurrent mucus plugging
   in the setting of significant background hypoxemia.  This is in the
   absence of significant evidence of new overwhelming infection as
   significant fever, hypotension, tachycardia have not accompanied
   presentation but this certainly may be partially treated infection and
   vigilance is to be maintained for this possibility.
   -Continue with MIE if able to assist patient with cough.
   -Continue with flutter valve for support
   -Continue with Tobramycin inhaled
   -Vanco/Zosyn to continue
   -Acyclovir
   -Did re-mention tracheostomy and this will have to be considered with
   recurrent hospitalizations needed as it may help with suctioning and
   cough but will have to consider risks
   -Speech and swallow to aid in evaluation and treatment in regards to
   aspiration risk
   -Will need to obtain sputum sample for culture based upon suctioning
   2)CML-GVHD
   -Mycophenilate Mofetil 250/500
   -Pred 30mg qd
   -Bactrim po qd
   3)Pain Control-
   -Lyrica/Methadone/Fentanyl Patch/Lidocaine Patch
   4)Cellulitis-Will need to follow exam, may be contributing to fever
   going forward
   -Vancomycin/Zosyn
   -Will need to consider antibiotic intervention based upon blood culture
   results going forward
   -Will have to consider ID consult for any expansion of area of
   involvement as this does represent reasonably complete coverage at this
   time.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2124-10-14**] 10:00 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2124-10-16 07:41:00 Physician Resident Progress Note
Chief Complaint: CML with GVHD
   24 Hour Events:
 NASAL SWAB - At [**2124-10-15**] 01:15 PM
   rapid respiratory viral culture
 PICC LINE - START [**2124-10-15**] 04:32 PM
   dressing changed
 PICC LINE - STOP [**2124-10-15**] 04:37 PM
   dressing changed
   - Speech and swallow cancelled as he had passed his last one just fine
   and nursing felt that it was not indicated
   - Flu swab negative, dc'ed respiratory precautions
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2124-10-15**] 08:00 PM
   Voriconazole - [**2124-10-15**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-10-16**] 03:34 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Acyclovir 3. Albuterol-Ipratropium 4. Albuterol 0.083% Neb Soln 5.
   Budesonide 6. Calcium Carbonate
   7. Docusate Sodium 8. Enoxaparin Sodium 9. Fentanyl Patch 10. Heparin
   Flush (10 units/ml) 11. Lansoprazole Oral Disintegrating Tab
   12. Lidocaine 5% Patch 13. Lidocaine 5% Patch 14. Lorazepam 15.
   Methadone 16. Metoprolol Tartrate
   17. Methadone 18. Morphine Sulfate IR 19. Morphine Sulfate 20.
   Multivitamins W/minerals 21. Mycophenolate Mofetil
   22. Mycophenolate Mofetil 23. Ondansetron 24. Pancrease MT 16 25.
   Piperacillin-Tazobactam 26. Polyethylene Glycol
   27. Pregabalin 28. PredniSONE 29. Senna 30. Sulfameth/Trimethoprim SS
   31. Tobramycin Inhalation Soln
   32. Vancomycin 33. Vitamin D 34. Voriconazole
   Changes to medical and family history:
   In [**Location (un) 308**] prior discharge summary from [**2124-7-6**], discovered that
   patient had profuse bleeding while on full anticoagulation with
   lovenox, thus has been on reduced dose of 40 mg Q12H since that time
   Review of systems is unchanged from admission except as noted below
   Review of systems: no CP, feels still has increased work of breathing
   from baseline, mild cough, +abd pain (not any worse)
   Flowsheet Data as of  [**2124-10-16**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.1
   HR: 69 (63 - 99) bpm
   BP: 108/68(77) {98/55(66) - 136/83(89)} mmHg
   RR: 12 (11 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.3 kg (admission): 69.3 kg
   Height: 61 Inch
             Total In:
                                                                  1,130 mL
                                                                    251 mL
   PO:
             TF:
   IVF:
                                                                  1,130 mL
                                                                    251 mL
   Blood products:
   Total out:
                                                                  1,160 mL
                                                                    710 mL
   Urine:
                                                                  1,160 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -30 mL
                                                                   -459 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool, Face tent
   SpO2: 99%
   ABG 7.40/70/57 ([**10-14**])
   Physical Examination
   Gen: sleeping, easily aroused, alert and oriented
   CV: rrr nl s1/s2 no murmurs
   Pulm: crackles b/l
   Abd: +BS, distended, very tender diffusely, no rebound or guarding
   Ext: erythema anteriorly and warm, moving all exts
   Labs / Radiology
   204 K/uL
   8.9 g/dL
   75 mg/dL
   0.5 mg/dL
   43 mEq/L
   3.9 mEq/L
   14 mg/dL
   98 mEq/L
   143 mEq/L
   27.2 %
   4.6 K/uL
        [image002.jpg]
                            [**2124-10-14**]  08:50 PM
                            [**2124-10-14**]  11:16 PM
                            [**2124-10-15**]  04:02 AM
                            [**2124-10-16**]  03:46 AM
   WBC
   5.4
   4.6
   Hct
   28.7
   27.2
   Plt
   231
   204
   Cr
   0.7
   0.5
   TCO2
   46
   45
   Glucose
   200
   75
   Other labs: PT / PTT / INR:11.1/25.7/0.9, Differential-Neuts:88.0 %,
   Band:2.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:1.0 %, Ca++:8.7 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Microbiology: [**10-15**] Negative for Respiratory Viral Antigen.  Viral ctx
   pending
   [**10-15**] sputum ctx pending
         2+   (1-5 per 1000X FIELD):   BUDDING YEAST.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S).
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.  IN PAIRS.
   [**10-14**] blood pending
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOXEMIA
   58 yo M with history of CML treated with allogeneic stem cell
   transplant in [**2121**] and complicating graft versus host disease presents
   from rehab following an episode of hypoxia to the 70s earlier today.
   Patient was discharged from the ICU to the high level rehab facility on
   [**2124-10-11**].
   #. Hypoxia:
   Patient with underlying bronchiolitis related to GVHD and with multiple
   respiratory pahtogens in recent past. The patient may have developed a
   healthcare associated pneumonia given his recent prolonged
   hospitalizations.  On CT, there is collapse of nearly entire LLL and
   some of RLL as well as persistent pleural effusions. No evidence of
   obstruction by mucous plug, so bronch is not likely to be helpful in
   this case.  Recent 7 day course of tamiflu from [**2124-10-2**] to
   [**2124-10-8**]
   - Cover for healthcare associated pneumonia with vancomycin and zosyn
   (zosyn chosen with regard to prior sensitivities).  Day 3 of a 8 day
   course.
   - Continue prednisone 30 mg daily
   - Pulmonary hygiene with mechanical in-exsufflator, incentive
   spirometry, acapella valve, deep suction today; MIE being brought over
   - f/u sputum ctx
   - Follow-up blood cultures
   #Fever: In [**Name (NI) **], pt. with low grade fever of 100.1F, could represent
   atelectasis vs. HAP vs. cellulitis on LE given erythema and warmth.
   WBC trending down, afebrile.
   -Will continue empiric treatment with Vanc and Zosyn as above
   -Trend WBC counts and fever curves
   -f/u Blood cultures
   .
   #. CML s/p BMTs, complicated by chronic GVHD:
   At previous admission patient was started on a prednisone taper of 60
   mg daily and had been titrated down to 30 mg daily.
   - Continue mycophenolate mofetil
   - Continue prednisone at 30 mg daily and reassess prior to planned
   taper down to 20 mg daily on [**2124-10-19**].
   #. Chronic abdominal pain and back pain:
   Thought to be attributable to GVHD after negative prior work-up.
   - Continue fentanyl patch, methadone, morphine, lidocaine patches,
   pregabalin
   #. Hx of PE, DVT:
   Patient with multiple prior thrombotic events.
   - Continue enoxaparin 40 mg Q12H
   ICU Care
   Nutrition:  PO diet
   Glycemic Control:
   Lines:
   PICC Line - [**2124-10-14**] 10:00 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:  lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ?c/o once can move without desats, maybe today

2124-10-16 12:11:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NASAL SWAB - At [**2124-10-15**] 01:15 PM
   rapid respiratory viral culture
 PICC LINE - START [**2124-10-15**] 04:32 PM
   dressing changed
 PICC LINE - STOP [**2124-10-15**] 04:37 PM
   dressing changed
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Voriconazole - [**2124-10-15**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-10-16**] 03:34 AM
   Vancomycin - [**2124-10-16**] 08:00 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2124-10-16**] 08:11 AM
   Lansoprazole (Prevacid) - [**2124-10-16**] 08:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2124-10-16**] 12:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.1
C (97
   HR: 79 (63 - 82) bpm
   BP: 114/65(78) {98/56(66) - 136/83(89)} mmHg
   RR: 16 (11 - 20) insp/min
   SpO2: 88%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.3 kg (admission): 69.3 kg
   Height: 61 Inch
             Total In:
                                                                  1,130 mL
                                                                    540 mL
   PO:
             TF:
   IVF:
                                                                  1,130 mL
                                                                    540 mL
   Blood products:
   Total out:
                                                                  1,160 mL
                                                                  1,210 mL
   Urine:
                                                                  1,160 mL
                                                                  1,210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -30 mL
                                                                   -670 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 88%
   ABG: ///43/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Wheezes : , Diminished: )
   Abdominal: Soft, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   204 K/uL
   75 mg/dL
   0.5 mg/dL
   43 mEq/L
   3.9 mEq/L
   14 mg/dL
   98 mEq/L
   143 mEq/L
   27.2 %
   4.6 K/uL
        [image002.jpg]
                            [**2124-10-14**]  08:50 PM
                            [**2124-10-14**]  11:16 PM
                            [**2124-10-15**]  04:02 AM
                            [**2124-10-16**]  03:46 AM
   WBC
   5.4
   4.6
   Hct
   28.7
   27.2
   Plt
   231
   204
   Cr
   0.7
   0.5
   TCO2
   46
   45
   Glucose
   200
   75
   Other labs: PT / PTT / INR:11.1/25.7/0.9, Differential-Neuts:88.0 %,
   Band:2.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:1.0 %, Ca++:8.7 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR-no evidence of recurrent collapse
   Assessment and Plan
   58 yo male with severe compromise of respiratory function with chronic
   obstructive lung disease and significant impairment in chest wall
   function with weakness and pain.  He has had reasonable capacity to
   maintain airspace patency with extensive support.  We do not see clear
   evidence of proximal obstruction to provide source for mechanical
   intervention to promote airspace patency and will need to depend on
   ongoing measures for support.
   1)Respiratory Failure-Do not see evidence of active significant
   infection or exacerbation of underlying lung disease upon return from
   rehab. We do need to maintain adequate support for clearance of
   secretions going forward
   -Vanco/Tobra/Zosyn
   -Budesonide
   -Prednisone
   -Bactrim DS qd
   -MIE and Flutter Valve today
   2)GVHD-
   -MMF
   -Acyclovir
   3)Pain Control-
   -Metadone/Lidocaine/Fentanyl
 IMPAIRED SKIN INTEGRITY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOXEMIA
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2124-10-14**] 10:00 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes

2124-10-17 07:18:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 44**] Resident Progress Note
   Chief Complaint: Hypoxia
   24 Hour Events:
   - Deep suctioned, does not like using MIE
   - Started on regular diet
   - States he is feeling like his breathing is stable, similar to when he
   was at rehab
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2124-10-16**] 08:00 PM
   Acyclovir - [**2124-10-16**] 08:00 PM
   Voriconazole - [**2124-10-16**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-10-17**] 04:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2124-10-16**] 08:12 AM
   Enoxaparin (Lovenox) - [**2124-10-16**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-10-17**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36
C (96.8
   HR: 70 (69 - 112) bpm
   BP: 101/74(81) {99/50(64) - 114/76(84)} mmHg
   RR: 11 (11 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.3 kg (admission): 69.3 kg
   Height: 61 Inch
             Total In:
                                                                  1,700 mL
                                                                    242 mL
   PO:
                                                                    520 mL
             TF:
   IVF:
                                                                  1,180 mL
                                                                    242 mL
   Blood products:
   Total out:
                                                                  1,895 mL
                                                                    440 mL
   Urine:
                                                                  1,895 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -195 mL
                                                                   -198 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: ///39/
   Physical Examination
   Gen: sleeping, easily aroused, alert and oriented
   CV: rrr nl s1/s2 no murmurs
   Pulm: crackles b/l with decreased breath sounds throughout, faint
   wheezing
   Abd: +BS, distended, very tender diffusely, no rebound or guarding
   Ext: erythema anteriorly and warm, moving all exts
   Labs / Radiology
   205 K/uL
   8.7 g/dL
   83 mg/dL
   0.6 mg/dL
   39 mEq/L
   3.8 mEq/L
   14 mg/dL
   98 mEq/L
   142 mEq/L
   26.0 %
   5.1 K/uL
        [image002.jpg]
                            [**2124-10-14**]  08:50 PM
                            [**2124-10-14**]  11:16 PM
                            [**2124-10-15**]  04:02 AM
                            [**2124-10-16**]  03:46 AM
                             [**2124-10-17**]  03:32 AM
   WBC
   5.4
   4.6
   5.1
   Hct
   28.7
   27.2
   26.0
   Plt
   [**Telephone/Fax (3) 10972**]
   Cr
   0.7
   0.5
   0.6
   TCO2
   46
   45
   Glucose
   200
   75
   83
   Other labs: PT / PTT / INR:11.1/25.7/0.9, Differential-Neuts:88.0 %,
   Band:2.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:1.0 %, Ca++:8.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   [**10-14**] Blood cx pending
   [**10-14**] MRSA screen pending
SPUTUM GRAM STAIN (Final [**2124-10-15**]):
      <10 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   BUDDING YEAST.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS.
      QUALITY OF SPECIMEN CANNOT BE ASSESSED.
   RESPIRATORY CULTURE (Preliminary): Pending
      SPARSE GROWTH Commensal Respiratory Flora.
[**2124-10-15**] 12:10 pm Rapid Respiratory Viral Screen & Culture
      Source: Nasal swab.
   Respiratory Viral Culture (Preliminary): Pending
   Respiratory Viral Antigen Screen (Final [**2124-10-15**]):
      Negative for Respiratory Viral Antigen.
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, Influenza A, B,
      and RSV by immunofluorescence.
      Refer to respiratory viral culture for further information.
   Assessment and Plan
   58 yo M with history of CML treated with allogeneic stem cell
   transplant in [**2121**] and complicating graft versus host disease who
   presented from rehab following an episode of hypoxia to the 70s.
   Patient was discharged from the ICU to the high level rehab facility on
   [**2124-10-11**].
   #. Hypoxia: Patient with underlying bronchiolitis related to GVHD and
   with multiple respiratory pathogens in recent past. Currently treating
   for HAP.  Has LLL collapse and some RLL collapse on CT.  No evidence of
   mucous plug obstruction.
   -- Continue HAP coverage with Vanc and Zosyn due to prior
   sensitivities, now on 4 of an 8 day course. (Vanc needs ID approval
   today)
   - Continue prednisone 30 mg daily until [**2124-10-19**], then 20mg daily after
   reassessment
   - Pulmonary hygiene with mechanical in-exsufflator, incentive
   spirometry, acapella valve, deep suction today; MIE being brought over
   - F/u final sputum cx, viral cx
   - Follow-up blood cultures
   - Will have discussion with patient and family regarding goals of care
   because if he decompensates and needs intubation, it is very likely
   that he would need subsequent trach which he does not want
   - Will need deep suctioning and to be on oxygen at LTACH when
   discharged
   #. Fever: In [**Name (NI) **], pt. with low grade fever of 100.1F, could represent
   atelectasis vs. HAP vs. cellulitis on LE given erythema and warmth.
   WBC stable and remains afebrile.
   -Will continue empiric treatment with Vanc and Zosyn as above
   -Trend WBC counts and fever curves
   - F/u Blood cultures
   #. CML s/p BMTs, complicated by chronic GVHD:  At previous admission
   patient was started on a prednisone taper of 60 mg daily and had been
   titrated down to 30 mg daily.
   - Continue mycophenolate mofetil
   - Continue prednisone at 30 mg daily and reassess prior to planned
   taper down to 20 mg daily on [**2124-10-19**].
   #. Chronic abdominal pain and back pain: Thought to be attributable to
   GVHD after negative prior work-up.
   - Continue fentanyl patch, methadone, morphine, lidocaine patches,
   pregabalin
   #. Hx of PE, DVT: Patient with multiple prior thrombotic events.
   - Continue enoxaparin 40 mg Q12H
   ICU Care
   Nutrition: Regular Diet
   Glycemic Control:  None
   Lines: PICC Line - [**2124-10-14**] 10:00 PM
   Prophylaxis:
   DVT: Lovenox 40mg [**Hospital1 **]
   Stress ulcer: Lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Screen for rehab today or tomorrow, until then ICU

2124-10-17 10:13:00 Physician Attending Progress Note
Chief Complaint: Respiratory Distress
   Hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Continued support with 3 lpm NC
   -Good secretion clearance with suction
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2124-10-16**] 08:00 PM
   Voriconazole - [**2124-10-16**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-10-17**] 04:00 AM
   Vancomycin - [**2124-10-17**] 08:30 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2124-10-17**] 08:33 AM
   Lansoprazole (Prevacid) - [**2124-10-17**] 08:33 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough, Tachypnea
   Flowsheet Data as of  [**2124-10-17**] 10:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 83 (70 - 112) bpm
   BP: 123/75(87) {101/50(64) - 123/76(87)} mmHg
   RR: 17 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.3 kg (admission): 69.3 kg
   Height: 61 Inch
             Total In:
                                                                  1,700 mL
                                                                    680 mL
   PO:
                                                                    520 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  1,180 mL
                                                                    480 mL
   Blood products:
   Total out:
                                                                  1,895 mL
                                                                    660 mL
   Urine:
                                                                  1,895 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -195 mL
                                                                     20 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///39/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   205 K/uL
   83 mg/dL
   0.6 mg/dL
   39 mEq/L
   3.8 mEq/L
   14 mg/dL
   98 mEq/L
   142 mEq/L
   26.0 %
   5.1 K/uL
        [image002.jpg]
                            [**2124-10-14**]  08:50 PM
                            [**2124-10-14**]  11:16 PM
                            [**2124-10-15**]  04:02 AM
                            [**2124-10-16**]  03:46 AM
                             [**2124-10-17**]  03:32 AM
   WBC
   5.4
   4.6
   5.1
   Hct
   28.7
   27.2
   26.0
   Plt
   [**Telephone/Fax (3) 10972**]
   Cr
   0.7
   0.5
   0.6
   TCO2
   46
   45
   Glucose
   200
   75
   83
   Other labs: PT / PTT / INR:11.1/25.7/0.9, Differential-Neuts:88.0 %,
   Band:2.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:1.0 %, Ca++:8.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR-mild improvement in LUL opacity.  He has likely persistent
   LLL collapse but do see air in LLL bronchus.
   Assessment and Plan
   58 yo male with CML and GVHD now re-admit to ICU with recurrent
   hypoxemia at rehab.  This is without lobar collapse seen upon return to
   ICU and with ongoing aggressive pulmonary toilet patient has had good
   capacity to maintain secretion clearance.  He has been active
   throughout therapeutic interventions.
   1)Respiratory Distress/Hypoxemia-_he has chronic respiratory compromise
   in the setting of COPD and chest wall restriction.  He has additionally
   an underlying bronchiolotis that is driving some of the obstruction
   -Vanco/Zosyn
day [**2-23**]
   -Pred 30mg/d
   -Tobra inhaled
   -ALbuterol [**Hospital1 **]
   -Will need MIE and flutter valve today
   2)GVHD-This appears to continue to be well controlled
   -Cellcept
   -Bactrim prophylaxis
   -Pred 30mg/d
   3)Pain
from compression fractures
   -Lyrica
   -Methadone
   -Lidocaine patch
   -Fentanyl patch
 IMPAIRED SKIN INTEGRITY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOXEMIA
   ICU Care
   Nutrition: PO intake
   Glycemic Control:
   Lines:
   PICC Line - [**2124-10-14**] 10:00 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
this will have to be addressed
patient is likely
   in current baseline chronic state for near and long term in regads to
   functional status.  This will have to continue to be discussed.
   Disposition :ICU
   Total time spent: 35 minutes

2124-10-18 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   None
   This AM, patient reports breathing is unchanged and continues to be
   labored; this was his baseline at rehab.  Also continues to have
   abdominal pain as his main complained, which is somewhat controlled on
   his current pain regimen.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2124-10-17**] 08:00 PM
   Acyclovir - [**2124-10-17**] 08:00 PM
   Voriconazole - [**2124-10-17**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-10-18**] 04:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2124-10-17**] 08:33 AM
   Enoxaparin (Lovenox) - [**2124-10-17**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-10-18**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36
C (96.8
   HR: 68 (67 - 90) bpm
   BP: 115/75(84) {87/47(55) - 129/78(89)} mmHg
   RR: 14 (11 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.3 kg (admission): 69.3 kg
   Height: 61 Inch
             Total In:
                                                                  2,060 mL
                                                                    168 mL
   PO:
                                                                  1,040 mL
             TF:
   IVF:
                                                                  1,020 mL
                                                                    168 mL
   Blood products:
   Total out:
                                                                  1,390 mL
                                                                    540 mL
   Urine:
                                                                  1,390 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    670 mL
                                                                   -372 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///41/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), Distant heart
   sounds, no murmurs appreciated
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: Diminished breath sounds with scattered wheezes
   throughout
   Abdominal: Soft, Bowel sounds present, Tender: diffusely in all four
   quadrants, no rebound or guarding
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, to mid calf
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   194 K/uL
   8.9 g/dL
   109 mg/dL
   0.6 mg/dL
   41 mEq/L
   4.4 mEq/L
   15 mg/dL
   97 mEq/L
   140 mEq/L
   27.6 %
   5.1 K/uL
        [image002.jpg]
                            [**2124-10-14**]  08:50 PM
                            [**2124-10-14**]  11:16 PM
                            [**2124-10-15**]  04:02 AM
                            [**2124-10-16**]  03:46 AM
                             [**2124-10-17**]  03:32 AM
                             [**2124-10-18**]  04:00 AM
   WBC
   5.4
   4.6
   5.1
   5.1
   Hct
   28.7
   27.2
   26.0
   27.6
   Plt
   [**Telephone/Fax (3) 10989**]94
   Cr
   0.7
   0.5
   0.6
   0.6
   TCO2
   46
   45
   Glucose
   200
   75
   83
   109
   Other labs: PT / PTT / INR:10.3/25.0/0.8, Differential-Neuts:88.0 %,
   Band:2.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:1.0 %, Ca++:8.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Blood Cx [**10-14**] pending
   Resp viral Cx [**10-15**] and sputum Cx [**10-15**] neg (final)
   No CXR today
   Assessment and Plan
   58 yo M with history of CML treated with allogeneic stem cell
   transplant in [**2121**] and complicating graft versus host disease who
   presented from rehab following an episode of hypoxia to the 70s.
   Patient was discharged from the ICU to the high level rehab facility on
   [**2124-10-11**].
   #. Hypoxia: Patient with underlying bronchiolitis related to GVHD and
   with multiple respiratory pathogens in recent past. Currently treating
   for HAP.  Has LLL collapse and some RLL collapse on CT.  No evidence of
   mucous plug obstruction.
   -- Continue HAP coverage with Vanc and Zosyn due to prior
   sensitivities, now on 5 of an 8 day course.
   - Continue prednisone 30 mg daily until [**2124-10-19**], then 20mg daily after
   reassessment
   - Pulmonary hygiene with mechanical in-exsufflator, incentive
   spirometry, acapella valve, deep suction today; MIE being brought over
   - Trial of Bipap at 10/5 today; has used in the past with favorable
   response
   - Follow-up blood cultures
   - Per outpatient pulmonologist, trach is unlikely to improve his
   functional status and may worsen his ability to cough; will hold off on
   trach unless patient needs to be intubated
   - Will need deep suctioning and to be on oxygen at LTACH when
   discharged
   #. Fever: In [**Name (NI) **], pt. with low grade fever of 100.1F, could represent
   atelectasis vs. HAP vs. cellulitis on LE given erythema and warmth.
   WBC stable and remains afebrile.
   -Will continue empiric treatment with Vanc and Zosyn as above
   -Trend WBC counts and fever curves
   - F/u Blood cultures
   #. CML s/p BMTs, complicated by chronic GVHD:  At previous admission
   patient was started on a prednisone taper of 60 mg daily and had been
   titrated down to 30 mg daily.
   - Continue mycophenolate mofetil
   - Continue prednisone at 30 mg daily and reassess prior to planned
   taper down to 20 mg daily on [**2124-10-19**].
   #. Chronic abdominal pain and back pain: Thought to be attributable to
   GVHD after negative prior work-up.
   - Continue fentanyl patch, methadone, morphine, lidocaine patches,
   pregabalin
   #. Hx of PE, DVT: Patient with multiple prior thrombotic events.
   - Continue enoxaparin 40 mg Q12H
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:  None
   Lines:
   Rt PICC Line - [**2124-10-14**] 10:00 PM
   Prophylaxis:
   DVT: lovenox 40 sq q12h
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition: screen for return to rehab, ICU
To floor today given
   stability over time with routine care dominated by suction and will add
   BIPAP 10/5

2124-10-18 12:26:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient describes dyspnea to be at baseline
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2124-10-17**] 08:00 PM
   Voriconazole - [**2124-10-17**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-10-18**] 04:00 AM
   Vancomycin - [**2124-10-18**] 08:00 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2124-10-17**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Chest pain, consistent with past discomfort and at
   baseline severity
   Respiratory: Tachypnea
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2124-10-18**] 12:17 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36.1
C (96.9
   HR: 58 (58 - 90) bpm
   BP: 121/64(78) {101/60(71) - 129/78(89)} mmHg
   RR: 13 (11 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 69.3 kg (admission): 69.3 kg
   Height: 61 Inch
             Total In:
                                                                  2,060 mL
                                                                    662 mL
   PO:
                                                                  1,040 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,020 mL
                                                                    422 mL
   Blood products:
   Total out:
                                                                  1,390 mL
                                                                    740 mL
   Urine:
                                                                  1,390 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    670 mL
                                                                    -78 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///41/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   194 K/uL
   109 mg/dL
   0.6 mg/dL
   41 mEq/L
   4.4 mEq/L
   15 mg/dL
   97 mEq/L
   140 mEq/L
   27.6 %
   5.1 K/uL
        [image002.jpg]
                            [**2124-10-14**]  08:50 PM
                            [**2124-10-14**]  11:16 PM
                            [**2124-10-15**]  04:02 AM
                            [**2124-10-16**]  03:46 AM
                             [**2124-10-17**]  03:32 AM
                             [**2124-10-18**]  04:00 AM
   WBC
   5.4
   4.6
   5.1
   5.1
   Hct
   28.7
   27.2
   26.0
   27.6
   Plt
   [**Telephone/Fax (3) 10989**]94
   Cr
   0.7
   0.5
   0.6
   0.6
   TCO2
   46
   45
   Glucose
   200
   75
   83
   109
   Other labs: PT / PTT / INR:10.3/25.0/0.8, Differential-Neuts:88.0 %,
   Band:2.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:1.0 %, Ca++:8.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   58 yo male with CML and now with persistent and significant respiratory
   failure.  This is attributable to obstructive lung disease, chest wall
   restriction with vertebral fractures and kyphosis.  He does not have
   evidence of ongoing active infection at this current time and small
   area of LLL collapse that persists.
   Respiratory Failure
   -Vanco
   -MIE, Flutter valve to be used as needed
   -Will trial BIPAP today
he has had favorable picture in the past but
   has not been used recently with concern for secretion management but
   this would appear a favorable opportunity for use to aid with control
   of chronic ventilatory failure
   -Do not see evidence of ongoing active infection
   GVHD-
   -Pred 30mg/d
   -Cellcept [**Hospital1 **]
   Pain Control-
   Lyrica
   Fentanyl
   Lidocaine
   ICU Care
   Nutrition: po intake
   Glycemic Control:
   Lines:
   PICC Line - [**2124-10-14**] 10:00 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
To floor today given stability over time with routine
   care dominated by suction and will add BIPAP 10/5
   Total time spent: 33 minutes

2124-10-19 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Failed Bipap trial with desats to 80's
   - Need to screen for rehab tomorrow (got delayed b/c were going to call
   him out but BMT refused)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2124-10-17**] 08:00 PM
   Voriconazole - [**2124-10-17**] 08:00 PM
   Vancomycin - [**2124-10-18**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-10-19**] 03:25 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Acyclovir 3. Albuterol-Ipratropium 4. Albuterol 0.083% Neb Soln 5.
   Budesonide 6. Calcium Carbonate
   7. Docusate Sodium 8. Enoxaparin Sodium 9. Fentanyl Patch 10. Heparin
   Flush (10 units/ml) 11. Lansoprazole Oral Disintegrating Tab
   12. Lidocaine 5% Patch 13. Lidocaine 5% Patch 14. Lorazepam 15.
   Methadone 16. Metoprolol Tartrate
   17. Methadone 18. Miconazole Powder 2% 19. Morphine Sulfate IR 20.
   Morphine Sulfate 21. Multivitamins W/minerals
   22. Mycophenolate Mofetil 23. Mycophenolate Mofetil 24. Ondansetron 25.
   Pancrease MT 16 26. Piperacillin-Tazobactam
   27. Polyethylene Glycol 28. Pregabalin 29. PredniSONE 30. Senna 31.
   Sulfameth/Trimethoprim SS 32. Tobramycin Inhalation Soln
   33. Vancomycin 34. Vitamin D 35. Voriconazole
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: abd pain worse, breathing at about 50% of baseline
   Flowsheet Data as of  [**2124-10-19**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.5
C (97.7
   HR: 63 (58 - 93) bpm
   BP: 129/69(84) {100/59(71) - 130/80(92)} mmHg
   RR: 11 (10 - 23) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.3 kg (admission): 69.3 kg
   Height: 61 Inch
             Total In:
                                                                  1,420 mL
                                                                    150 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                    940 mL
                                                                    150 mL
   Blood products:
   Total out:
                                                                  1,460 mL
                                                                    620 mL
   Urine:
                                                                  1,460 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -40 mL
                                                                   -470 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%/4L, 88-89/3.5L, 90 on 4L
   ABG: ///39/
   Physical Examination
   Gen: NAD, easily aroused
   CV: RRR nl s1/s2 no murmurs
   Pulm: ronchi b/l from ant
   Abd: +BS, mildly distended, diffusely tender
   Ext: mottled, erythema unchanged, 1+ [**First Name4 (NamePattern1) **]
   [**Last Name (NamePattern1) 503**] / Radiology
   185 K/uL
   8.6 g/dL
   81 mg/dL
   0.5 mg/dL
   39 mEq/L
   4.3 mEq/L
   12 mg/dL
   98 mEq/L
   142 mEq/L
   27.7 %
   4.6 K/uL
        [image002.jpg]
                            [**2124-10-14**]  08:50 PM
                            [**2124-10-14**]  11:16 PM
                            [**2124-10-15**]  04:02 AM
                            [**2124-10-16**]  03:46 AM
                             [**2124-10-17**]  03:32 AM
                             [**2124-10-18**]  04:00 AM
                             [**2124-10-19**]  02:51 AM
   WBC
   5.4
   4.6
   5.1
   5.1
   4.6
   Hct
   28.7
   27.2
   26.0
   27.6
   27.7
   Plt
   [**Telephone/Fax (3) 10989**]94
   185
   Cr
   0.7
   0.5
   0.6
   0.6
   0.5
   TCO2
   46
   45
   Glucose
   200
   75
   83
   109
   81
   Other [**Telephone/Fax (3) **]: PT / PTT / INR:10.3/25.0/0.8, Differential-Neuts:88.0 %,
   Band:2.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:1.0 %, Lactic Acid:0.7 mmol/L,
   Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Microbiology: blood 11/28 pending
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOXEMIA
   58 yo M with history of CML treated with allogeneic stem cell
   transplant in [**2121**] and complicating graft versus host disease who
   presented from rehab following an episode of hypoxia to the 70s.
   Patient was discharged from the ICU to the high level rehab facility on
   [**2124-10-11**].
    #. Hypoxia: Patient with underlying bronchiolitis related to GVHD and
   with multiple respiratory pathogens in recent past. Currently treating
   for HAP.  Has LLL collapse and some RLL collapse on CT.  No evidence of
   mucous plug obstruction.
   -- Continue HAP coverage with Vanc and Zosyn due to prior
   sensitivities, now on 6 of an 8 day course.
   - Continue prednisone 30 mg daily until [**2124-10-19**], then 20mg daily after
   reassessment.  Given that he is still not able to be weaned to bipap,
   kept at this dose with daily reassessment.
   - Pulmonary hygiene with mechanical in-exsufflator, incentive
   spirometry, acapella valve, deep suction daily
   - Trial of Bipap at 10/5 today; has used in the past with favorable
   response
   - Follow-up blood cultures
   - Per outpatient pulmonologist, trach is unlikely to improve his
   functional status and may worsen his ability to cough; will hold off on
   trach unless patient needs to be intubated
   - Will need deep suctioning and to be on oxygen at LTACH when
   discharged
   - possible to try bipap later today depending on pulmonary status
   #. Fever: In [**Name (NI) **], pt. with low grade fever of 100.1F, could represent
   atelectasis vs. HAP vs. cellulitis on LE given erythema and warmth.
   WBC stable and remains afebrile.
   -Will continue empiric treatment with Vanc and Zosyn as above
   -Trend WBC counts and fever curves
   - F/u Blood cultures
   #. CML s/p BMTs, complicated by chronic GVHD:  At previous admission
   patient was started on a prednisone taper of 60 mg daily and had been
   titrated down to 30 mg daily.
   - Continue mycophenolate mofetil
   - Continue prednisone at 30 mg daily and reassess prior to planned
   taper down to 20 mg daily on [**2124-10-19**].
   #. Chronic abdominal pain and back pain: Thought to be attributable to
   GVHD after negative prior work-up.
   - Continue fentanyl patch, methadone, morphine, lidocaine patches,
   pregabalin
   #. Hx of PE, DVT: Patient with multiple prior thrombotic events.
   - Continue enoxaparin 40 mg Q12H
   ICU Care
   Nutrition: diet
   Glycemic Control:
   Lines:
   PICC Line - [**2124-10-14**] 10:00 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  full
   Disposition: eval for placement today versus c/o to floor

2124-10-19 12:24:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient unable to tolerate [**Hospital1 **]-Level yesterday
   -Patient maintained on 3.5 l NC this morning
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2124-10-17**] 08:00 PM
   Voriconazole - [**2124-10-17**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-10-19**] 03:25 AM
   Vancomycin - [**2124-10-19**] 08:13 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2124-10-19**] 08:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2124-10-19**] 12:17 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 63 (63 - 93) bpm
   BP: 127/61(78) {100/59(71) - 130/83(92)} mmHg
   RR: 15 (10 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.3 kg (admission): 69.3 kg
   Height: 67 Inch
             Total In:
                                                                  1,421 mL
                                                                    662 mL
   PO:
                                                                    480 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    941 mL
                                                                    422 mL
   Blood products:
   Total out:
                                                                  1,460 mL
                                                                    760 mL
   Urine:
                                                                  1,460 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -39 mL
                                                                    -98 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///39/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Wheezes : , Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, protuberant
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   185 K/uL
   81 mg/dL
   0.5 mg/dL
   39 mEq/L
   4.3 mEq/L
   12 mg/dL
   98 mEq/L
   142 mEq/L
   27.7 %
   4.6 K/uL
        [image002.jpg]
                            [**2124-10-14**]  08:50 PM
                            [**2124-10-14**]  11:16 PM
                            [**2124-10-15**]  04:02 AM
                            [**2124-10-16**]  03:46 AM
                             [**2124-10-17**]  03:32 AM
                             [**2124-10-18**]  04:00 AM
                             [**2124-10-19**]  02:51 AM
   WBC
   5.4
   4.6
   5.1
   5.1
   4.6
   Hct
   28.7
   27.2
   26.0
   27.6
   27.7
   Plt
   [**Telephone/Fax (3) 10989**]94
   185
   Cr
   0.7
   0.5
   0.6
   0.6
   0.5
   TCO2
   46
   45
   Glucose
   200
   75
   83
   109
   81
   Other labs: PT / PTT / INR:10.3/25.0/0.8, Differential-Neuts:88.0 %,
   Band:2.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:1.0 %, Lactic Acid:0.7 mmol/L,
   Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   58 yo male with CML and significant obstructive lung disease with OB
   and now with hypercarbic respiratory failure with complications of
   spinal fractures and now with persistent hypercarbia.  His recent
   course has been complicated by significant secretions and with focus on
   strategies for clearance are significant at this time.  We have had a
   trial of BIPAP which was limited by hypoxia and we do have ongoing
   concerns as relates to [**Hospital1 **]-LEVEL mask ventilation having a significant
   negative impact on patient's secretion clearance which would have a
   substantial chance of contributing to respiratory failure.  At this
   time [**Hospital1 **]-level has not succeeded.  We are left with suctioning and
   flutter valve and MIE to provide facility in clearance.
   1)Respiratory Failure-
   -Continue with nasal-tracheal suctioning
   -Alb/Atrovent inhaler
   -Flutter Valve
   -Will hold on BIPAP given increase in secretion clearance and hypoxemia
   yesterday
will re-trial with secretions decreased
   -Will screen for possible rehab placement and keep in ICU for now
   2)Pain Control-
   -Fentanyl
   -Lidocaine
   -MSO4
   -Lyrica
   -Methadone
   3)GVHD-
   -Cellcept
   -Pred-30mg/d and continue
   -Bactrim
   -Will continue the budesonide dosing
   ICU Care
   Nutrition: PO intake
   Glycemic Control:
   Lines:
   PICC Line - [**2124-10-14**] 10:00 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2124-10-20 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   desats to 70s, but mostly in mid to high 80s.
   no events
   has rehab bed for tomorrow
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2124-10-19**] 07:52 PM
   Voriconazole - [**2124-10-19**] 07:52 PM
   Vancomycin - [**2124-10-19**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2124-10-20**] 04:01 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2124-10-19**] 08:12 AM
   Other medications:
   Acyclovir 3. Albuterol-Ipratropium 4. Albuterol 0.083% Neb Soln 5.
   Budesonide 6. Calcium Carbonate
   7. Docusate Sodium 8. Enoxaparin Sodium 9. Fentanyl Patch 10. Heparin
   Flush (10 units/ml) 11. Lansoprazole Oral Disintegrating Tab
   12. Lidocaine 5% Patch 13. Lidocaine 5% Patch 14. Lorazepam 15.
   Methadone 16. Metoprolol Tartrate
   17. Methadone 18. Miconazole Powder 2% 19. Morphine Sulfate IR 20.
   Morphine Sulfate 21. Multivitamins W/minerals
   22. Mycophenolate Mofetil 23. Mycophenolate Mofetil 24. Ondansetron 25.
   Pancrease MT 16 26. Piperacillin-Tazobactam
   27. Polyethylene Glycol 28. Pregabalin 29. PredniSONE 30. Senna 31.
   Sulfameth/Trimethoprim SS 32. Tobramycin Inhalation Soln
   33. Vancomycin 34. Vitamin D 35. Voriconazole
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: pt feels is 75% of baseline
   Flowsheet Data as of  [**2124-10-20**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.2
C (97.2
   HR: 67 (60 - 83) bpm
   BP: 95/63(71) {94/60(71) - 141/83(95)} mmHg
   RR: 12 (12 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.3 kg (admission): 69.3 kg
   Height: 67 Inch
             Total In:
                                                                  1,640 mL
                                                                    276 mL
   PO:
                                                                    800 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    840 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                  1,480 mL
                                                                    470 mL
   Urine:
                                                                  1,480 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    160 mL
                                                                   -194 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 4L
   SpO2: 95%
   ABG: ///38/
   Physical Examination
   Gen: sleepy, arousable over time but more difficult than usual
   CV: rrr nl s1/s2 no m
   Pulm: decreased BS diffusely from ant
   Abd: +BS, soft, mild distended, TTP unchanged
   Ext: 2+ LE edema and erythema, unchanged
   Labs / Radiology
   213 K/uL
   8.4 g/dL
   123 mg/dL
   0.6 mg/dL
   38 mEq/L
   3.9 mEq/L
   14 mg/dL
   100 mEq/L
   143 mEq/L
   25.8 %
   5.1 K/uL
        [image002.jpg]
                            [**2124-10-14**]  08:50 PM
                            [**2124-10-14**]  11:16 PM
                            [**2124-10-15**]  04:02 AM
                            [**2124-10-16**]  03:46 AM
                             [**2124-10-17**]  03:32 AM
                             [**2124-10-18**]  04:00 AM
                             [**2124-10-19**]  02:51 AM
                             [**2124-10-20**]  03:56 AM
   WBC
   5.4
   4.6
   5.1
   5.1
   4.6
   5.1
   Hct
   28.7
   27.2
   26.0
   27.6
   27.7
   25.8
   Plt
   [**Telephone/Fax (3) 10989**]94
   185
   213
   Cr
   0.7
   0.5
   0.6
   0.6
   0.5
   0.6
   TCO2
   46
   45
   Glucose
   200
   75
   83
   109
   81
   123
   Other labs: PT / PTT / INR:10.3/25.0/0.8, Differential-Neuts:88.0 %,
   Band:2.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:1.0 %, Lactic Acid:0.7 mmol/L,
   Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Microbiology: [**10-14**] blood ctx
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOXEMIA
   58 yo M with history of CML treated with allogeneic stem cell
   transplant in [**2121**] and complicating graft versus host disease who
   presented from rehab following an episode of hypoxia to the 70s.
   Patient was discharged from the ICU to the high level rehab facility on
   [**2124-10-11**].
    #. Hypoxia: Patient with underlying bronchiolitis related to GVHD and
   with multiple respiratory pathogens in recent past. Currently treating
   for HAP.  Has LLL collapse and some RLL collapse on CT.  No evidence of
   mucous plug obstruction.
   -- Continue HAP coverage with Vanc and Zosyn due to prior
   sensitivities, now on 7 of an 8 day course.
   - Consider decrease prednisone to 20mg daily.
   - Pulmonary hygiene with mechanical in-exsufflator, incentive
   spirometry, acapella valve, deep suction daily
   - Trial of Bipap at 10/5 today; has used in the past with favorable
   response
   - Follow-up blood cultures
   - Per outpatient pulmonologist, trach is unlikely to improve his
   functional status and may worsen his ability to cough; will hold off on
   trach unless patient needs to be intubated
   - Will need deep suctioning and to be on oxygen at LTACH when
   discharged
   #. Fever: In [**Name (NI) **], pt. with low grade fever of 100.1F, could represent
   atelectasis vs. HAP vs. cellulitis on LE given erythema and warmth.
   WBC stable and remains afebrile.
   -Will continue empiric treatment with Vanc and Zosyn as above
   -Trend WBC counts and fever curves
   - F/u Blood cultures
   #. CML s/p BMTs, complicated by chronic GVHD:  At previous admission
   patient was started on a prednisone taper of 60 mg daily and had been
   titrated down to 30 mg daily.
   - Continue mycophenolate mofetil
   - decrease Prednisone to 20mg today
   #. Chronic abdominal pain and back pain: Thought to be attributable to
   GVHD after negative prior work-up.
   - Continue fentanyl patch, methadone, morphine, lidocaine patches,
   pregabalin
   #. Hx of PE, DVT: Patient with multiple prior thrombotic events.
   - Continue enoxaparin 40 mg Q12H
   ICU Care
   Nutrition: diet
   Glycemic Control:
   Lines:
   PICC Line - [**2124-10-14**] 10:00 PM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  full
   Disposition: ?rehab today

2124-10-20 11:53:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -BIPAP at 10/5 and desaturation to 84%--he had decrease to this quite
   rapidly despite increase in O2 flow rate to 5 liters at the time of
   initiation of [**Hospital1 **]-level support.  He was 96% prior to intervention.
   This would argue that patient has significant evolution of zone 1
   physiology and preferential shunt to underventilated areas at the
   bases.  There was some concern about the fact that effective FIO2 is
   going to be less with [**Hospital1 **]-level device and we could consider move to
   non-invasive mask ventilation but with the physiologic response seen
   above it is almost certain the Vd/Vt was increased at the time of
   application of the positive pressure.  Additionally this may be
   contributed to by mucus plugging distally.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2124-10-20**] 04:01 AM
   Vancomycin - [**2124-10-20**] 08:44 AM
   Bactrim (SMX/TMP) - [**2124-10-20**] 08:45 AM
   Acyclovir - [**2124-10-20**] 08:45 AM
   Voriconazole - [**2124-10-20**] 08:46 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2124-10-20**] 08:45 AM
   Lansoprazole (Prevacid) - [**2124-10-20**] 08:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Dyspnea, Tachypnea
   Flowsheet Data as of  [**2124-10-20**] 11:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.8
C (96.5
   HR: 64 (60 - 83) bpm
   BP: 100/59(66) {94/34(59) - 141/81(95)} mmHg
   RR: 11 (11 - 20) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.3 kg (admission): 69.3 kg
   Height: 67 Inch
             Total In:
                                                                  1,640 mL
                                                                    616 mL
   PO:
                                                                    800 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    840 mL
                                                                    416 mL
   Blood products:
   Total out:
                                                                  1,480 mL
                                                                    690 mL
   Urine:
                                                                  1,480 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    160 mL
                                                                    -74 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///38/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   213 K/uL
   123 mg/dL
   0.6 mg/dL
   38 mEq/L
   3.9 mEq/L
   14 mg/dL
   100 mEq/L
   143 mEq/L
   25.8 %
   5.1 K/uL
        [image002.jpg]
                            [**2124-10-14**]  08:50 PM
                            [**2124-10-14**]  11:16 PM
                            [**2124-10-15**]  04:02 AM
                            [**2124-10-16**]  03:46 AM
                             [**2124-10-17**]  03:32 AM
                             [**2124-10-18**]  04:00 AM
                             [**2124-10-19**]  02:51 AM
                             [**2124-10-20**]  03:56 AM
   WBC
   5.4
   4.6
   5.1
   5.1
   4.6
   5.1
   Hct
   28.7
   27.2
   26.0
   27.6
   27.7
   25.8
   Plt
   [**Telephone/Fax (3) 10989**]94
   185
   213
   Cr
   0.7
   0.5
   0.6
   0.6
   0.5
   0.6
   TCO2
   46
   45
   Glucose
   200
   75
   83
   109
   81
   123
   Other labs: PT / PTT / INR:10.3/25.0/0.8, Differential-Neuts:88.0 %,
   Band:2.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:1.0 %, Lactic Acid:0.7 mmol/L,
   Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   58 yo male with significant obstructive lung disease in the setting of
   OB with GVHD following BMT for CML and additionally with significant
   chest wall restriction in the setting of vertebral fractures and
   pain.   We have been able to maintain patient with frequent suctioning
   and close chest PT limited to flutter valve as patient has had good
   tolerance with that BIPAP has not succeded.
   1)Respiratory Failure-
   -Needs Incentive spirometry 10x/hr while awake
   -Needs flutter valve [**Hospital1 **]
   -Needs suction [**Hospital1 **]
   -Needs continuous telemetry monitoring and would have to consider
   central oxymetry for intermittent desaturations if seen
   -Antibiotics completed today
   -BIPAP Not an aid in ventilation at this time.
   ICU Care
   Nutrition: PO intake
   Glycemic Control:
   Lines:
   PICC Line - [**2124-10-14**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :To [**Hospital Ward Name 669**] 7
   Total time spent: 38 minutes

2124-10-21 07:38:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 44**] Resident Progress Note
   Chief Complaint: Respiratory distress and hypoxia
   24 Hour Events:
   - Was going to be called out to BMT however dropped sats and required
   facemask
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2124-10-20**] 04:01 AM
   Vancomycin - [**2124-10-20**] 08:44 AM
   Acyclovir - [**2124-10-20**] 08:45 AM
   Bactrim (SMX/TMP) - [**2124-10-20**] 08:45 AM
   Voriconazole - [**2124-10-20**] 08:46 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2124-10-20**] 08:45 AM
   Lansoprazole (Prevacid) - [**2124-10-20**] 08:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-10-21**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.6
   HR: 69 (64 - 101) bpm
   BP: 109/61(72) {95/34(59) - 136/80(92)} mmHg
   RR: 11 (11 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.3 kg (admission): 69.3 kg
   Height: 67 Inch
                  Total In:
                                                                    821 mL
                  PO:
                                                                    320 mL
                  TF:
   IVF:
                                                                    501 mL
   Blood products:
   Total out:
                                                                  1,510 mL
                                                                    420 mL
   Urine:
                                                                  1,510 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -689 mL
                                                                   -420 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ////
   Physical Examination
   Gen: Sleepy, but arousable.  Does not want to converse this morning
   CV: RRR no mrg
   Pulm: Decreased BS diffusely with rhoncherous breath sounds
   Abd: +BS, soft, mild distended, TTP unchanged
   Ext: 2+ LE edema and erythema, unchanged
   Labs / Radiology
   213 K/uL
   8.4 g/dL
   123 mg/dL
   0.6 mg/dL
   38 mEq/L
   3.9 mEq/L
   14 mg/dL
   100 mEq/L
   143 mEq/L
   25.8 %
   5.1 K/uL
        [image002.jpg]
   No labs today
                            [**2124-10-14**]  08:50 PM
                            [**2124-10-14**]  11:16 PM
                            [**2124-10-15**]  04:02 AM
                            [**2124-10-16**]  03:46 AM
                             [**2124-10-17**]  03:32 AM
                             [**2124-10-18**]  04:00 AM
                             [**2124-10-19**]  02:51 AM
                             [**2124-10-20**]  03:56 AM
   WBC
   5.4
   4.6
   5.1
   5.1
   4.6
   5.1
   Hct
   28.7
   27.2
   26.0
   27.6
   27.7
   25.8
   Plt
   [**Telephone/Fax (3) 10989**]94
   185
   213
   Cr
   0.7
   0.5
   0.6
   0.6
   0.5
   0.6
   TCO2
   46
   45
   Glucose
   200
   75
   83
   109
   81
   123
   Other labs: PT / PTT / INR:10.3/25.0/0.8, Differential-Neuts:88.0 %,
   Band:2.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:1.0 %, Lactic Acid:0.7 mmol/L,
   Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Stool cx pending [**10-20**], negative for C Diff
   [**10-17**] negative viral screen
   GRAM STAIN (Final [**2124-10-15**]):
      <10 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   BUDDING YEAST.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS.
      QUALITY OF SPECIMEN CANNOT BE ASSESSED.
   RESPIRATORY CULTURE (Final [**2124-10-17**]):
      SPARSE GROWTH Commensal Respiratory Flora.
   [**10-15**] Blood culture no growth, final
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOXEMIA
   58 yo M with history of CML treated with allogeneic stem cell
   transplant in [**2121**] and complicating graft versus host disease who
   presented from rehab following an episode of hypoxia to the 70s.
   Patient was discharged from the ICU to the high level rehab facility on
   [**2124-10-11**] and then readmitted with hypoxia.
    #. Hypoxia: Patient with underlying bronchiolitis related to GVHD and
   with multiple respiratory pathogens in recent past. Has LLL collapse
   and some RLL collapse on CT.  No evidence of mucous plug obstruction.
   Finished course of antibiotics.
   - Pulmonary hygiene with mechanical in-exsufflator, incentive
   spirometry, acapella valve, deep suction daily
 have discussed q2h
   acapella valve usage
   - Per outpatient pulmonologist, trach is unlikely to improve his
   functional status and may worsen his ability to cough; will hold off on
   trach unless patient needs to be intubated
   - Will need deep suctioning and to be on oxygen at LTACH/floor when
   discharged
   #. Fever: In [**Name (NI) **], pt. with low grade fever of 100.1F, could represent
   atelectasis vs. HAP vs. cellulitis on LE given erythema and warmth.
   WBC stable and remains afebrile.
   -Trend WBC counts and fever curves
   - F/u Blood cultures
   #. CML s/p BMTs, complicated by chronic GVHD:  At previous admission
   patient was started on a prednisone taper of 60 mg daily and had been
   titrated down to 20 mg daily.
   - Continue mycophenolate mofetil
   - Continue ppx with Bactrim, voriconazole, tobramycin
   - Will touch base with outpt pulmonologist regarding azithromycin
   prophylaxis (500mg daily x 6 days, then 250mg on MWF)
   #. Chronic abdominal pain and back pain: Thought to be attributable to
   GVHD after negative prior work-up.
   - Continue fentanyl patch, methadone, morphine, lidocaine patches,
   pregabalin
   #. Hx of PE, DVT: Patient with multiple prior thrombotic events.
   - Continue enoxaparin 40 mg Q12H
   ICU Care
   Nutrition: diet
   Glycemic Control:
   Lines:
   PICC Line - [**2124-10-14**] 10:00 PM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  full
   Disposition: call out to BMT today

2124-10-21 13:42:00 Physician Attending Progress Note
Chief Complaint: hypoxemic resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58 yo male with significant obstructive lung disease in the setting of
   OB with GVHD following BMT for CML and additionally with significant
   chest wall restriction in the setting of vertebral fractures and
   pain.   We have been able to maintain patient with frequent suctioning
   and close chest PT limited to flutter valve as patient has had good
   tolerance with that BIPAP has not succeded.
   1)Respiratory Failure-
   -Needs Incentive spirometry 10x/hr while awake
   -Needs flutter valve [**Hospital1 **]
   -Needs suction [**Hospital1 **]
   -Needs continuous telemetry monitoring and would have to consider
   central oxymetry for intermittent desaturations if seen
   -Antibiotics completed today
   -BIPAP Not an aid in ventilation at this time.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2124-10-20**] 04:01 AM
   Vancomycin - [**2124-10-20**] 08:44 AM
   Bactrim (SMX/TMP) - [**2124-10-20**] 08:45 AM
   Acyclovir - [**2124-10-20**] 08:45 AM
   Voriconazole - [**2124-10-20**] 08:46 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2124-10-21**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: [**5-24**] SeverePain location: back (from compression fx)
   Flowsheet Data as of  [**2124-10-21**] 01:42 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.9
   HR: 66 (62 - 101) bpm
   BP: 118/64(77) {95/37(61) - 136/80(92)} mmHg
   RR: 13 (11 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.3 kg (admission): 69.3 kg
   Height: 67 Inch
                  Total In:
                                                                    821 mL
                                                                    120 mL
   PO:
                                                                    320 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    501 mL
   Blood products:
   Total out:
                                                                  1,510 mL
                                                                    705 mL
   Urine:
                                                                  1,510 mL
                                                                    705 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -689 mL
                                                                   -585 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress, ill-appearing, severe kyphosis
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), difficult to auscultate due
   to loud rhonchorous lung sounds
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: severe, bilateral)
   Abdominal: Soft, Bowel sounds present, Tender: diffusely, worst
   midepigastric
   Extremities: no significant edema
   Skin:  Warm, extensive skin tears
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   213 K/uL
   123 mg/dL
   0.6 mg/dL
   38 mEq/L
   3.9 mEq/L
   14 mg/dL
   100 mEq/L
   143 mEq/L
   25.8 %
   5.1 K/uL
        [image002.jpg]
                            [**2124-10-14**]  08:50 PM
                            [**2124-10-14**]  11:16 PM
                            [**2124-10-15**]  04:02 AM
                            [**2124-10-16**]  03:46 AM
                             [**2124-10-17**]  03:32 AM
                             [**2124-10-18**]  04:00 AM
                             [**2124-10-19**]  02:51 AM
                             [**2124-10-20**]  03:56 AM
   WBC
   5.4
   4.6
   5.1
   5.1
   4.6
   5.1
   Hct
   28.7
   27.2
   26.0
   27.6
   27.7
   25.8
   Plt
   [**Telephone/Fax (3) 10989**]94
   185
   213
   Cr
   0.7
   0.5
   0.6
   0.6
   0.5
   0.6
   TCO2
   46
   45
   Glucose
   200
   75
   83
   109
   81
   123
   Other labs: PT / PTT / INR:10.3/25.0/0.8, Differential-Neuts:88.0 %,
   Band:2.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:1.0 %, Lactic Acid:0.7 mmol/L,
   Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Fluid analysis / Other labs: no labs today
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOXEMIA
   58yo M with CML s/p BMT [**2121**] complicated by GVHD/BO of the lung with
   recurrent respiratory failure and bronchiectasis.  Has weaned from NRB
   to NC and looks at his (very poor) baseline on standing tobramycin nebs
   for pseudomonas suppression.  Trial of BiPAP 12.03 and 12.04, failed
   [**12-20**] desaturation.  Today with lower sats and higher 02 requirement,
   probably [**12-20**] plug - was supposed to go to onc floor yesterday but had
   significant oxygen desaturation.
   Asked pt to use flutter valve every two hours while awake, as opposed
   to [**Hospital1 **] as he has been using.
   Completed course vanc/zosyn yesterday, now is on home prophylactic abx
   including bactrim, [**Doctor First Name **] nebs, voriconazole.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2124-10-14**] 10:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2124-10-22 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - GIven 20mg IV lasix to try and see if he was maybe fluid overloaded,
   put out 780cc
   No events overnight.
   This AM, patient reports that his breathing is more labored today.
   Continues to have pain in his abdomen and back, which is somewhat
   relieved with pain medications.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2124-10-20**] 04:01 AM
   Vancomycin - [**2124-10-20**] 08:44 AM
   Acyclovir - [**2124-10-20**] 08:45 AM
   Bactrim (SMX/TMP) - [**2124-10-20**] 08:45 AM
   Voriconazole - [**2124-10-20**] 08:46 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2124-10-21**] 09:00 AM
   Furosemide (Lasix) - [**2124-10-21**] 09:26 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-10-22**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.6
C (96
   HR: 75 (62 - 85) bpm
   BP: 103/57(67) {96/57(67)
 134/64} mmHg
   RR: 16 (12 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.3 kg (admission): 69.3 kg
   Height: 67 Inch
                  Total In:
                                                                    440 mL
                                                                    250 mL
   PO:
                                                                    440 mL
                                                                    250 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,661 mL
                                                                    430 mL
   Urine:
                                                                  1,661 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,221 mL
                                                                   -180 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: ///44/
   Physical Examination
   Gen: A&Ox3, sitting up in chair in moderate distress, using accessory
   muscles to breathe
   CV: RRR, nl S1, S2, no murmur appreciated
   Pulm: Poor air movement throughout, rhonchi that clear somewhat with
   cough
   Abd: soft, diffusely tender without rebound or guarding, hypoactive
   bowel sounds
   Extrem: no c/c/e, 1+ DP pulses
   Labs / Radiology
   235 K/uL
   8.8 g/dL
   90 mg/dL
   0.7 mg/dL
   44 mEq/L
   4.4 mEq/L
   17 mg/dL
   97 mEq/L
   143 mEq/L
   28.6 %
   5.9 K/uL
        [image002.jpg]
                            [**2124-10-14**]  08:50 PM
                            [**2124-10-14**]  11:16 PM
                            [**2124-10-15**]  04:02 AM
                            [**2124-10-16**]  03:46 AM
                             [**2124-10-17**]  03:32 AM
                             [**2124-10-18**]  04:00 AM
                             [**2124-10-19**]  02:51 AM
                             [**2124-10-20**]  03:56 AM
                             [**2124-10-22**]  04:05 AM
   WBC
   5.4
   4.6
   5.1
   5.1
   4.6
   5.1
   5.9
   Hct
   28.7
   27.2
   26.0
   27.6
   27.7
   25.8
   28.6
   Plt
   [**Telephone/Fax (3) 10989**]94
   185
   213
   235
   Cr
   0.7
   0.5
   0.6
   0.6
   0.5
   0.6
   0.7
   TCO2
   46
   45
   Glucose
   200
   75
   83
   109
   81
   123
   90
   Other labs: PT / PTT / INR:10.3/25.0/0.8, Differential-Neuts:88.0 %,
   Band:2.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:1.0 %, Lactic Acid:0.7 mmol/L,
   Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   [**10-20**] fecal cx pending, c diff neg
   [**10-15**] Resp viral screen neg (final)
   [**10-14**] BCx neg (final)
   No new imaging
   Assessment and Plan
   58 yo M with history of CML treated with allogeneic stem cell
   transplant in [**2121**] and complicating graft versus host disease who
   presented from rehab following an episode of hypoxia to the 70s.
   Patient was discharged from the ICU to the high level rehab facility on
   [**2124-10-11**] and then readmitted with hypoxia.
    #. Hypoxia: Patient with underlying bronchiolitis related to GVHD and
   with multiple respiratory pathogens in recent past. Has LLL collapse
   and some RLL collapse on CT.  No evidence of mucous plug obstruction.
   Finished course of antibiotics.
   - Pulmonary hygiene with mechanical in-exsufflator, incentive
   spirometry, acapella valve, deep suction daily
 have discussed q2h
   acapella valve usage
   - Per outpatient pulmonologist, trach is unlikely to improve his
   functional status and may worsen his ability to cough; will hold off on
   trach unless patient needs to be intubated
   - Will need deep suctioning and to be on oxygen at LTACH/floor when
   discharged
   - Plan for goals of care discussion on Monday; will contact outpatient
   providers to see when they are available
   #. Fever: In [**Name (NI) **], pt. with low grade fever of 100.1F, could represent
   atelectasis vs. HAP vs. cellulitis on LE given erythema and warmth.
   WBC stable and remains afebrile. Empiric Vanc/Zosyn stopped.
   -Trend WBC counts and fever curves
   - F/u stool Cx
   #. CML s/p BMTs, complicated by chronic GVHD:  At previous admission
   patient was started on a prednisone taper of 60 mg daily and had been
   titrated down to 20 mg daily.
   - Continue mycophenolate mofetil
   - Continue ppx with Bactrim, voriconazole, tobramycin
   - Will start azithromycin prophylaxis (500mg daily x 6 days, then 250mg
   on MWF)
   - Continue prednisone at 20 mg daily
   #. Chronic abdominal pain and back pain: Thought to be attributable to
   GVHD after negative prior work-up.
   - Continue fentanyl patch, methadone, morphine, lidocaine patches,
   pregabalin
   - will consider increasing prn morphine or change to drip
   #. Hx of PE, DVT: Patient with multiple prior thrombotic events.
   - Continue enoxaparin 40 mg Q12H
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:
   Lines:
   PICC Line - [**2124-10-14**] 10:00 PM
   Prophylaxis:
   DVT: lovenox 40 sc q12 h
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition: Consider callout to BMT

2124-10-23 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -a fib in RVR to 130s.  given metoprolol 5 IV x2 with minimal effect.
   given dilt 5 IV x4 with better effect.  Changed from PO metoprolol to
   diltiazem.
   -given fluid boluses totaling 2 L
   -needing suctioning 2x/hr, thickened secretions
   -contact[**Name (NI) **] primary onc team regarding goals of care discussion;
   indicated that they would be available for meeting on wed.
   This AM, pt with increased work of breathing, hypercarbic and hypoxic
   -> intubated.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2124-10-20**] 08:44 AM
   Acyclovir - [**2124-10-20**] 08:45 AM
   Bactrim (SMX/TMP) - [**2124-10-20**] 08:45 AM
   Voriconazole - [**2124-10-20**] 08:46 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2124-10-22**] 04:24 PM
   Diltiazem - [**2124-10-22**] 07:20 PM
   Enoxaparin (Lovenox) - [**2124-10-22**] 08:00 PM
   Morphine Sulfate - [**2124-10-22**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-10-23**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.3
C (95.5
   HR: 112 (68 - 127) bpm
   BP: 91/60(68) {89/48(59) - 139/76(209)} mmHg
   RR: 18 (13 - 31) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 69.3 kg (admission): 69.3 kg
   Height: 67 Inch
             Total In:
                                                                  2,058 mL
                                                                     35 mL
   PO:
                                                                    610 mL
             TF:
   IVF:
                                                                  1,448 mL
                                                                     35 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    170 mL
   Urine:
                                                                    900 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,158 mL
                                                                   -135 mL
   Respiratory support
   O2 Delivery Device: High flow neb at 95% FiO2
   SpO2: 92%
   ABG: 7.34/85/65/48 this AM prior to intubation
   Physical Examination
   Gen: awake but visibly exhausted, in mild distress, using accessory
   muscles to breathe
   CV: irregularly irregular, S1, S2, no murmurs appreciated
   Pulm: poor air movement, diffuse rhonchi that clear after suctioning
   (partially with cough)
   Abd: soft, diffusely tender, no rebound or guarding, bowel sounds
   present
   Extrem: 2+ pitting edema of lower extremities b/l, venous stasis
   changes, diminished DP pulses b/l
   Labs / Radiology
   223 K/uL
   8.3 g/dL
   81 mg/dL
   0.7 mg/dL
   40 mEq/L
   4.2 mEq/L
   20 mg/dL
   99 mEq/L
   142 mEq/L
   26.1 %
   6.9 K/uL
        [image002.jpg]
                            [**2124-10-14**]  08:50 PM
                            [**2124-10-14**]  11:16 PM
                            [**2124-10-15**]  04:02 AM
                            [**2124-10-16**]  03:46 AM
                             [**2124-10-17**]  03:32 AM
                             [**2124-10-18**]  04:00 AM
                             [**2124-10-19**]  02:51 AM
                             [**2124-10-20**]  03:56 AM
                             [**2124-10-22**]  04:05 AM
                             [**2124-10-23**]  04:01 AM
   WBC
   5.4
   4.6
   5.1
   5.1
   4.6
   5.1
   5.9
   6.9
   Hct
   28.7
   27.2
   26.0
   27.6
   27.7
   25.8
   28.6
   26.1
   Plt
   [**Telephone/Fax (3) 10989**]94
   185
   213
   235
   223
   Cr
   0.7
   0.5
   0.6
   0.6
   0.5
   0.6
   0.7
   0.7
   TCO2
   46
   45
   Glucose
   200
   75
   83
   109
   81
   123
   90
   81
   Other labs: PT / PTT / INR:10.3/25.0/0.8, Differential-Neuts:88.0 %,
   Band:2.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:1.0 %, Lactic Acid:0.7 mmol/L,
   Ca++:8.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   [**10-20**] fecal cx neg, c diff neg
   [**10-15**] Resp viral screen neg (final)
   [**10-14**] BCx neg (final)
   No new imaging
   Assessment and Plan
   58 yo M with history of CML treated with allogeneic stem cell
   transplant in [**2121**] and complicating graft versus host disease who
   presented from rehab following an episode of hypoxia to the 70s.
   Patient was discharged from the ICU to the high level rehab facility on
   [**2124-10-11**] and then readmitted with hypoxia.
    #. Hypoxia: Patient with underlying bronchiolitis and bronchiectasis
   related to GVHD and with multiple respiratory pathogens in recent past.
   Has LLL collapse and some RLL collapse on CT.   Finished course of
   antibiotics.  Patient
s respiratory function has declined over the past
   48 hours, he is becoming more difficult to suction; possibly having
   mucus plugging and decreased recruitment secondary to fatigue could all
   be contributing to his hypoxia.  Less likely to be in CHF, as patient
   appears hypovolemic clinically.  This AM, pt made aware that intubation
   would lead to tracheostomy and agreed to proceed.
   - Currently intubated on volume support; will attempt to decrease FiO2
   and possibly switch to PS later today
   - Continue aggressive suctioning, atrovent and albuterol nebs
   - Send sputum culture as patient could have recurrent pulm infection
   - IP contact[**Name (NI) **] for tacheostomy
   .
   # Atrial fibrillation; New onset this admission, although per patient
   has had episodes in the past.  Likely due to hypoxia and increased
   catcholamine surge.  More responsive to diltiazem than metoprolol ->
   changed to diltiazem.  Pt also appears volume down this morning, with
   decreased urine output
   - bolus 1 L NS
   - Can consider increasing diltiazem in PM if fluid repletion does not
   improve tachycardia
   .
   #. Fever: In [**Name (NI) **], pt. with low grade fever of 100.1F, could represent
   atelectasis vs. HAP vs. cellulitis on LE given erythema and warmth.
   WBC stable and remains afebrile. Empiric Vanc/Zosyn stopped.  Pt
   remains afebrile but respiratory function has declined with increased
   secretions.
   - Sputum Cx today
   -Trend WBC counts and fever curves
   - F/u stool Cx
   #. CML s/p BMTs, complicated by chronic GVHD:  At previous admission
   patient was started on a prednisone taper of 60 mg daily and had been
   titrated down to 20 mg daily.
   - Continue mycophenolate mofetil
   - Continue ppx with Bactrim, voriconazole, tobramycin, acyclovir
   - Will start azithromycin prophylaxis (500mg daily x 6 days, then 250mg
   on MWF); today is day 2.
   - Continue prednisone at 20 mg daily
   #. Chronic abdominal pain and back pain: Thought to be attributable to
   GVHD after negative prior work-up.
   - Continue fentanyl patch, methadone, morphine, lidocaine patches,
   pregabalin
   - will consider increasing prn morphine or change to drip
   #. Hx of PE, DVT: Patient with multiple prior thrombotic events.
   - Continue enoxaparin 40 mg Q12H
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:
   Lines:
   PICC Line - [**2124-10-14**] 10:00 PM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition: [**Hospital Unit Name 44**]

2124-10-24 07:22:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 44**] Resident Progress Note
   Chief Complaint: Hypoxia/Respiratory Distress
   24 Hour Events:
   -intubated yesterday morning for respiratory fatigue
   -to trach today at bedside 1030/11am
   -Fi02 decreased to 50 because of 100+ on ABG
   -had TTE: poor technical quality due to patient's body habitus. Left
   ventricular function is normal, a focal wall motion abnormality cannot
   be fully excluded. The right ventricle is not well seen. Diastolic
   function is probably normal. Mild mitral and aortic regurgitation. Mild
   pulmonary artery systolic hypertension.
   -was changed to bolus sedation and changed to PS10/10, TVs 300s RR 14
   ABG 7.26/83/115
   -bolused 4 liters more due to hypotension
   -converted to sinus in early am
   -swtiched to AC control around 545 am as MV only approx 3, with RR
   approx 9 and TV 300s
 INVASIVE VENTILATION - START [**2124-10-23**] 08:32 AM
 TRANSTHORACIC ECHO - At [**2124-10-23**] 03:58 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2124-10-23**] 08:00 PM
   Voriconazole - [**2124-10-23**] 08:00 PM
   Infusions:
   Phenylephrine - 0.6 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2124-10-23**] 11:40 AM
   Enoxaparin (Lovenox) - [**2124-10-23**] 07:42 PM
   Midazolam (Versed) - [**2124-10-24**] 06:03 AM
   Fentanyl - [**2124-10-24**] 06:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-10-24**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96
   Tcurrent: 35
C (95
   HR: 65 (65 - 129) bpm
   BP: 105/59(70) {76/40(49) - 113/80(85)} mmHg
   RR: 20 (11 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.3 kg (admission): 69.3 kg
   Height: 67 Inch
             Total In:
                                                                  5,662 mL
                                                                    229 mL
   PO:
             TF:
                                                                    116 mL
                                                                      2 mL
   IVF:
                                                                  5,432 mL
                                                                    167 mL
   Blood products:
   Total out:
                                                                    990 mL
                                                                    520 mL
   Urine:
                                                                    990 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,672 mL
                                                                   -291 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 387 (386 - 5,371) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 16
   PEEP: 10 cmH2O
   FiO2: 60%
   PIP: 20 cmH2O
   Plateau: 20 cmH2O
   Compliance: 38.9 cmH2O/mL
   SpO2: 100%
   ABG: 7.26/82.[**Numeric Identifier 96**]/115/37/7 at 12am on PS
   Ve: 5.1 L/min
   PaO2 / FiO2: 192
   Physical Examination
   Gen: intubated and sedated, not responsive to verbal or tactile stimuli
   CV: regular rate and rhythm, S1, S2, no murmurs appreciated
   Pulm: poor air movement, diffuse rhonchi bilaterally anteriorly
   Abd: soft, diffusely tender, no rebound or guarding, bowel sounds
   present
   Extrem: 2+ pitting edema of lower extremities b/l, venous stasis
   changes, diminished DP pulses b/l
   Labs / Radiology
   224 K/uL
   7.9 g/dL
   161 mg/dL
   0.6 mg/dL
   37 mEq/L
   4.3 mEq/L
   15 mg/dL
   104 mEq/L
   142 mEq/L
   25.0 %
   6.9 K/uL
        [image002.jpg]
                            [**2124-10-16**]  03:46 AM
                             [**2124-10-17**]  03:32 AM
                             [**2124-10-18**]  04:00 AM
                             [**2124-10-19**]  02:51 AM
                             [**2124-10-20**]  03:56 AM
                             [**2124-10-22**]  04:05 AM
                             [**2124-10-23**]  04:01 AM
                             [**2124-10-23**]  02:38 PM
                             [**2124-10-24**]  12:05 AM
                             [**2124-10-24**]  03:38 AM
   WBC
   4.6
   5.1
   5.1
   4.6
   5.1
   5.9
   6.9
   6.9
   Hct
   27.2
   26.0
   27.6
   27.7
   25.8
   28.6
   26.1
   25.0
   Plt
   [**Telephone/Fax (3) 11058**]85
   [**Telephone/Fax (2) 11059**]24
   Cr
   0.5
   0.6
   0.6
   0.5
   0.6
   0.7
   0.7
   0.6
   TCO2
   44
   39
   Glucose
   75
   83
   109
   81
   123
   90
   81
   161
   Other labs: PT / PTT / INR:10.6/30.1/0.9, Differential-Neuts:88.0 %,
   Band:2.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:1.0 %, Lactic Acid:0.7 mmol/L,
   Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   [**2124-10-20**] C Diff negative (Final), no salmonella, shigella, or
   campylobacter
   CXR [**2124-10-23**] In the interval, a nasogastric tube and an endotracheal
   tube have been inserted. The nasogastric tube shows a normal course,
   the sidehole projects over the proximal parts of the stomach. The
   endotracheal tube projects roughly 4 cm above the carina with its tip.
   The pre-existing left basal pleural effusion, combined retrocardiac
   atelectasis has slightly increased in extent. On the other hand, the
   pre-existing small right effusion is unchanged. No newly appeared focal
   lung lesion. The overall size of the cardiac silhouette is unchanged.
   CXR today in OMR
   Assessment and Plan
   58 yo M with history of CML treated with allogeneic stem cell
   transplant in [**2121**] and complicating graft versus host disease who
   presented from rehab following an episode of hypoxia to the 70s.
   Patient was discharged from the ICU to the high level rehab facility on
   [**2124-10-11**] and then readmitted with hypoxia.
    #. Hypoxia: Patient with underlying bronchiolitis and bronchiectasis
   related to GVHD and with multiple respiratory pathogens in recent past.
   Has LLL collapse and some RLL collapse on CT.   Finished course of
   antibiotics.  Now intubated and sedated
   - Currently intubated on AC with volume control; will attempt to
   decrease FiO2 again today before PEEP
   - Continue aggressive suctioning, atrovent and albuterol nebs
   - Send sputum culture as patient could have recurrent pulm infection,
   not sent yesterday
   - IP contact[**Name (NI) **] for tracheostomy, likely will happen this am
   - Likely will need A-line today
   # Hypotension: Will wean pressor as tolerated, likely related to
   sedation and peri-intubation period.
   # Atrial fibrillation: New onset this admission, likely due to hypoxia
   and increased catecholamine surge.  More responsive to diltiazem than
   metoprolol -> changed to diltiazem.  Now has converted to sinus rhythm
   - Can consider increasing diltiazem in future if necessary for RVR
   #. Fever: WBC stable and remains afebrile since admission. Empiric
   Vanc/Zosyn stopped.
   - Sputum Cx today
   -Trend WBC counts and fever curves
   - F/u stool Cx
   #. CML s/p BMTs, complicated by chronic GVHD:  At previous admission
   patient was started on a prednisone taper of 60 mg daily and had been
   titrated down to 20 mg daily.
   - Continue mycophenolate mofetil
   - Continue ppx with Bactrim, voriconazole, tobramycin, acyclovir
   - Continue azithromycin prophylaxis (500mg daily x 1 week total, then
   250mg on MWF); today is day 4
   - Continue prednisone at 20 mg daily
   #. Chronic abdominal pain and back pain: Thought to be attributable to
   GVHD after negative prior work-up.
   - Continue fentanyl patch, methadone, morphine, lidocaine patches,
   pregabalin
   #. Hx of PE, DVT: Patient with multiple prior thrombotic events.
   - Continue enoxaparin 40 mg Q12H
   ICU Care
   Nutrition: NPO, getting Tube feeds but likely will need PEG, will
   contact IR
   - [**Name2 (NI) **] get nutrition consult for meds that cannot be crushed like
   pancrease
   Glycemic Control:  None
   Lines: PICC Line - [**2124-10-14**] 10:00 PM
   Maybe will get A-line today
   Prophylaxis:
   DVT: Lovenox
   Stress ulcer: Lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU, will get case management involved today

2124-10-25 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PERCUTANEOUS TRACHEOSTOMY - At [**2124-10-24**] 12:15 PM
   - Afebrile
   - Case management notified and working on getting patient a bed in next
   few days, likely will go to [**Hospital1 630**]
   - Got trach this am
   - IR plans to PEG tomorrow
   - Neo at 0.5 then stopped, still getting bolus sedation
   - FiO2 weaned to 40%, PEEP weaned from 10 to 8
   - per pharm, cellcept available as suspension that can be given via
   PEG, voriconazole tabs can be crushed and put down PEG as well so can
   switch from IV meds when he gets PEG
   - sister upset that no one called before/after trach today - wants to
   be called after PEG tomorrow
   - Oncologist wanted CT and further treatment for pneumonia, we wanted
   to hold off on further Abx
   - Changed methadone, azithro, and acyclovir temporarily to IV since no
   longer has OG tube, will need to switch back once has PEG
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Voriconazole - [**2124-10-24**] 08:00 PM
   Acyclovir - [**2124-10-24**] 09:00 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2124-10-25**] 02:00 AM
   Fentanyl - [**2124-10-25**] 02:00 AM
   Methadone Hydrochloride - [**2124-10-25**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-10-25**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.8
   HR: 84 (70 - 92) bpm
   BP: 99/61(70) {90/55(64) - 128/72(85)} mmHg
   RR: 21 (17 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.3 kg (admission): 69.3 kg
   Height: 67 Inch
             Total In:
                                                                  1,047 mL
                                                                     73 mL
   PO:
             TF:
                                                                      2 mL
   IVF:
                                                                    985 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  1,460 mL
                                                                    540 mL
   Urine:
                                                                  1,460 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -413 mL
                                                                   -468 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 47
   PIP: 16 cmH2O
   Plateau: 18 cmH2O
   Compliance: 46.1 cmH2O/mL
   SpO2: 98%
   ABG: ///35/
   Ve: 7.8 L/min
   Physical Examination
   Gen: lying in bed, NAD, responsive to verbal stimuli, appears
   withdrawn, trach in place
   CV: regular rate and rhythm, S1, S2, no murmurs appreciated
   Pulm: poor air movement, minimal rhonchi bilaterally anteriorly
   Abd: soft, diffusely tender, no rebound or guarding, bowel sounds
   present
   Extrem: 2+ pitting edema of lower extremities b/l, venous stasis
   changes, diminished DP pulses b/l
   Labs / Radiology
   188 K/uL
   7.6 g/dL
   68 mg/dL
   0.6 mg/dL
   35 mEq/L
   3.8 mEq/L
   13 mg/dL
   104 mEq/L
   143 mEq/L
   24.0 %
   5.1 K/uL
        [image002.jpg]
                             [**2124-10-17**]  03:32 AM
                             [**2124-10-18**]  04:00 AM
                             [**2124-10-19**]  02:51 AM
                             [**2124-10-20**]  03:56 AM
                             [**2124-10-22**]  04:05 AM
                             [**2124-10-23**]  04:01 AM
                             [**2124-10-23**]  02:38 PM
                             [**2124-10-24**]  12:05 AM
                             [**2124-10-24**]  03:38 AM
                             [**2124-10-25**]  04:00 AM
   WBC
   5.1
   5.1
   4.6
   5.1
   5.9
   6.9
   6.9
   5.1
   Hct
   26.0
   27.6
   27.7
   25.8
   28.6
   26.1
   25.0
   24.0
   Plt
   [**Telephone/Fax (2) 11066**]
   224
   188
   Cr
   0.6
   0.6
   0.5
   0.6
   0.7
   0.7
   0.6
   0.6
   TCO2
   44
   39
   Glucose
   83
   109
   81
   123
   90
   81
   161
   68
   Other labs: PT / PTT / INR:10.6/30.1/0.9, Differential-Neuts:88.0 %,
   Band:2.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:1.0 %, Lactic Acid:0.7 mmol/L,
   Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:1.8 mg/dL
[**2124-10-24**] 10:00 pm SPUTUM     Site: ENDOTRACHEAL
   GRAM STAIN (Final [**2124-10-25**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS.
   RESPIRATORY CULTURE (Preliminary):
   CXR today: Stable, taken during expiration so low lung volumes and
   difficult to compare (my read).
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPOTENSION (NOT SHOCK)
 ATRIAL FIBRILLATION (AFIB)
 GAIT, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 IMPAIRED SKIN INTEGRITY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOXEMIA
   58 yo M with history of CML treated with allogeneic stem cell
   transplant in [**2121**] and complicating graft versus host disease who
   presented from rehab following an episode of hypoxia to the 70s.
   Patient was discharged from the ICU to the high level rehab facility on
   [**2124-10-11**] and then readmitted with hypoxia.
    #. Hypoxia: Patient with underlying bronchiolitis and bronchiectasis
   related to GVHD and with multiple respiratory pathogens in recent past.
   Has LLL collapse and some RLL collapse on CT.   Finished course of
   antibiotics.  Now with Trach on ventilator.
   - Currently intubated on AC with volume control; successfully weaned
   FiO2 and PEEP yesterday.  Will attempt PS today after placement of PEG
   - Continue aggressive suctioning, atrovent and albuterol nebs
   - f/u sputum Cx; will hold off on abx until culture returns or patient
   becomes febrile
   - will also continue to diurese with goal 2 L neg today; will use lasix
   gtt if patient becomes hypotensive
   # Atrial fibrillation: New onset this admission, likely due to hypoxia
   and increased catecholamine surge.  More responsive to diltiazem than
   metoprolol -> changed to diltiazem.  Now has converted to sinus rhythm.
   - diltiazem on hold as pt NPO; will resume after PEG placed
   .
   # Depression: Pt appears more withdrawn on exam today.
   - initiate SSRI today
   .
   #. CML s/p BMTs, complicated by chronic GVHD:  At previous admission
   patient was started on a prednisone taper of 60 mg daily and had been
   titrated down to 20 mg daily.
   - Continue mycophenolate mofetil
   - Continue ppx with Bactrim, voriconazole, tobramycin, acyclovir
   - Continue azithromycin prophylaxis (500mg daily x 1 week total, then
   250mg on MWF); today is day 4
   - Continue prednisone at 20 mg daily
   .
   #. Chronic abdominal pain and back pain: Thought to be attributable to
   GVHD after negative prior work-up.
   - Continue fentanyl patch, methadone, morphine, lidocaine patches,
   pregabalin
   - pain management consult as patient will be unable to have lyrica in
   the future
   .
   #. Hx of PE, DVT: Patient with multiple prior thrombotic events.
   - Continue enoxaparin 40 mg Q12H (on hold for peg today), will likely
   resume in 48 hours
   .
   # Hypotension: Likely related to sedation and peri-intubation period.
   Now improved and pressor stopped.
   .
   #. Fever: WBC stable and remains afebrile since admission. Empiric
   Vanc/Zosyn stopped.
   - f/u Sputum Cx
   -Trend WBC counts and fever curves
   ICU Care
   Nutrition: NPO for now, getting PEG today
   -need to touch base on need for pancrease after PEG
   Glycemic Control:  None
   Lines:
   PICC Line - [**2124-10-14**] 10:00 PM
   Prophylaxis:
   DVT: lovenox on hold for peg
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition: ICU for now, being screened for [**Hospital1 **]

2124-10-26 07:26:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 44**] Resident Progress Note
   Chief Complaint: Hypoxia
   24 Hour Events:
   - Lovenox restarted in PM
   - Lasix dose at 4pm (20mg IV)
   - Started Celexa and emailed Dr. [**Last Name (STitle) 1750**] about it
   - Converted meds to NG/PEG, liquid where available
   - Pain management consult: formal recs pending but initially they say
   it is ok to give lyrica through peg (just open capsule per pharmacy),
   they are not sure about pharmakokinetics of giving it this way as it is
   off label -> if not working, would switch to liquid neurontin at
   starting dose 600 mg TID and monitor for sedation.  Also, do not think
   he is absorbing anything from fentanyl patch because of his edema.
   Suggested stopping fentanyl patch and monitoring how much fentanyl
   bolus dosing he needs over next day, then converting to morphine to
   give standing through PEG.  Also, given his poor prognosis he would be
   a candidate for a pump in the future.  Fentanyl patch d/c'd --> using
   fentanyl IV for breakthrough pain
   - Switched to PS in AM ([**8-21**]).  Passed rsbi but RT did not do SBT
   because sats went to 80s without peep.
   - States pain same as yesterday, also feeling SOB
 PEG INSERTION - At [**2124-10-25**] 12:53 PM
   To IR for perc g-tube insertion.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Voriconazole - [**2124-10-25**] 08:51 AM
   Azithromycin - [**2124-10-25**] 04:29 PM
   Acyclovir - [**2124-10-25**] 09:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-10-25**] 09:55 AM
   Midazolam (Versed) - [**2124-10-25**] 01:29 PM
   Furosemide (Lasix) - [**2124-10-25**] 04:19 PM
   Enoxaparin (Lovenox) - [**2124-10-25**] 08:00 PM
   Fentanyl - [**2124-10-26**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-10-26**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 83 (80 - 99) bpm
   BP: 93/58(66) {87/49(57) - 123/75(83)} mmHg
   RR: 15 (10 - 30) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.3 kg (admission): 69.3 kg
   Height: 67 Inch
             Total In:
                                                                  1,558 mL
                                                                     90 mL
   PO:
             TF:
   IVF:
                                                                  1,128 mL
                                                                     30 mL
   Blood products:
   Total out:
                                                                  3,040 mL
                                                                    500 mL
   Urine:
                                                                  3,040 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,482 mL
                                                                   -410 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 342 (342 - 342) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 87
   RSBI Deferred: Sao2 < 90%
   PIP: 15 cmH2O
   Plateau: 14 cmH2O
   SpO2: 93%
   ABG: ///37/
   Ve: 6.9 L/min
   Physical Examination
   Gen: lying in bed, NAD, trach in place
   CV: regular rate and rhythm, S1, S2, no murmurs appreciated
   Pulm: poor air movement, rhonchi bilaterally anteriorly
   Abd: soft, diffusely tender, no rebound or guarding, bowel sounds
   present
   Extrem: 2+ pitting edema of lower extremities b/l, venous stasis
   changes, diminished DP pulses b/l
   Labs / Radiology
   186 K/uL
   7.5 g/dL
   95 mg/dL
   0.6 mg/dL
   37 mEq/L
   3.6 mEq/L
   10 mg/dL
   101 mEq/L
   141 mEq/L
   23.9 %
   5.1 K/uL
        [image002.jpg]
                             [**2124-10-18**]  04:00 AM
                             [**2124-10-19**]  02:51 AM
                             [**2124-10-20**]  03:56 AM
                             [**2124-10-22**]  04:05 AM
                             [**2124-10-23**]  04:01 AM
                             [**2124-10-23**]  02:38 PM
                             [**2124-10-24**]  12:05 AM
                             [**2124-10-24**]  03:38 AM
                             [**2124-10-25**]  04:00 AM
                            [**2124-10-26**]  03:22 AM
   WBC
   5.1
   4.6
   5.1
   5.9
   6.9
   6.9
   5.1
   5.1
   Hct
   27.6
   27.7
   25.8
   28.6
   26.1
   25.0
   24.0
   23.9
   Plt
   194
   185
   213
   235
   223
   224
   188
   186
   Cr
   0.6
   0.5
   0.6
   0.7
   0.7
   0.6
   0.6
   0.6
   TCO2
   44
   39
   Glucose
   109
   81
   123
   90
   81
   161
   68
   95
   Other labs: PT / PTT / INR:11.3/30.1/0.9, ALT / AST:26/32, Alk Phos / T
   Bili:411/0.2, Differential-Neuts:88.0 %, Band:2.0 %, Lymph:5.0 %,
   Mono:3.0 %, Eos:1.0 %, Lactic Acid:0.7 mmol/L, Ca++:8.5 mg/dL, Mg++:2.2
   mg/dL, PO4:2.8 mg/dL
[**2124-10-24**] 10:00 pm SPUTUM     Site: ENDOTRACHEAL (Known yesterday)
   GRAM STAIN (Final [**2124-10-25**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS.
   RESPIRATORY CULTURE (Preliminary):
   No Chest xray today in OMR
   Assessment and Plan
   58 yo M with history of CML treated with allogeneic stem cell
   transplant in [**2121**] and complicating graft versus host disease who
   presented from rehab following an episode of hypoxia to the 70s.
   Patient was discharged from the ICU to the high level rehab facility on
   [**2124-10-11**] and then readmitted with hypoxia.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])/HYPOXEMIA: Patient with
   underlying bronchiolitis and bronchiectasis related to GVHD and with
   multiple respiratory pathogens in recent past. Has LLL collapse and
   some RLL collapse on CT.   Finished course of antibiotics.  Now with
   Trach on ventilator.  [**Month (only) 60**] also have pulmonary edema in the setting of
   microocclusive disease
   - Currently intubated on AC with volume control; successfully weaned
   FiO2 and PEEP.  Switched to PS  yesterday, but unable to do SBT due to
   desats.  Will adjust vent today, may increase PS or slope of
   inspiration.
   - Continue aggressive suctioning, atrovent and albuterol nebs
   - F/u sputum Cx; will hold off on abx until culture returns or patient
   becomes febrile.  Send another sputum cx today.
   - Will also continue to diurese with goal 2 L neg today; will use lasix
   gtt if patient becomes hypotensive, can give 20mg IV Lasix again now
   with I/o Check in the afternoon
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN): Has chronic abdominal pain
   and back pain thought to be attributable to GVHD after negative prior
   work-up.  Also with multiple compression fractures on his back.
   - Continue methadone, morphine, lidocaine patches, pregabalin via PEG
   - Have switched to fentanyl boluses per pain management recs, is
   requiring 375mcg fentanyl since 9pm last night
   - Plan to put on morphine PCA overnight to assess pain needs more
   accurately, will confirm appropriate dosing with pain team.  Likely may
   need basal dose overnight on PCA.
   - Appreciate pain service recs
 ATRIAL FIBRILLATION (AFIB): New onset this admission, likely due to
   hypoxia and increased catecholamine surge.  More responsive to
   diltiazem than metoprolol -> changed to diltiazem.  Now has converted
   to sinus rhythm.
   - Have restarted diltiazem since has PEG
   .
 DEPRESSION: Pt has appeared withdrawn since admission, more after
   intubation/trach.
   - Have started SSRI today and emailed oncologist
   .
   #. CML s/p BMTs, complicated by chronic GVHD:  At previous admission
   patient was started on a prednisone taper of 60 mg daily and had been
   titrated down to 20 mg daily.
   - Continue mycophenolate mofetil
   - Continue ppx with Bactrim, voriconazole, tobramycin, acyclovir
   - Continue azithromycin prophylaxis (500mg daily x 1 week total, then
   250mg on MWF); today is day 5
   - Continue prednisone at 20 mg daily
   .
   #. Hx of PE, DVT: Patient with multiple prior thrombotic events.
   - Continue enoxaparin 40 mg Q12H
   .
 HYPOTENSION (NOT SHOCK): Likely related to sedation and
   peri-intubation period.  Now improved and pressor stopped.
   .
   #. Fever: WBC stable and remains afebrile since admission. Empiric
   Vanc/Zosyn stopped.
   - f/u Sputum Cx
   -Trend WBC counts and fever curves
   #.  Anemia: Hct slowly trending down, likely anemia of chronic disease
   and recent procedures.
   - Iron studies if does not improve post-procedures
   - Trend daily Hct
   - Guaiac stools
   ICU Care
   Nutrition: Tube feeds to start 24 hours after PEG tube placed
   Glycemic Control:  None
   Lines: PICC Line - [**2124-10-14**] 10:00 PM
   Prophylaxis:
   DVT: Lovenox, restarted yesterday
   Stress ulcer: PPI (lansoprazole)
   VAP:
   Comments:
   Communication:  Comments: [**Name (NI) 167**] [**Name (NI) 10959**] (sister) [**0-0-**], cell
   phone number in pt
s room
   Code status: Full code
   Disposition: ICU for now, being screened for [**Hospital1 **] and will likely be
   discharged tomorrow pending pain control
   ------ Protected Section ------
   CRITICAL CARE
   Present for the key portions of the resident
s history and exam. Agree
   with A&P as outlined during morning rounds.  We are making active
   weaning efforts
 trial of trache mask.  Still suspect he has pulm
   edema rather than infection causing this decomp so we are trying to
   diurese.  Plan per Pan Service is to try PCA to assess total narcotic
   use.
   Time spent 40 min
   Critically ill
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 115**] [**Last Name (NamePattern1) 116**], MD
   on:[**2124-10-26**] 19:41 ------

2124-10-27 06:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2124-10-26**] 12:46 PM
   [**10-26**]
   - Started on PCA using (per pain advice) to dilaudid 0.37 q10mins, can
   increase to q6mins if needed
   - Also started on amitriptyline 10mg po at night
   - did well on SBT for 2 hours then went on [**3-21**] and was more comfortable
   - neg 700 and tenuous BPs so left as is
   -BPs to SBP 70s around 11pm (received methadone and dilt at same time),
   did not bolus as MS [**First Name (Titles) **] [**Last Name (Titles) 949**] stable, however [**Last Name (Titles) 949**] tapered off around 1am
   so gave 500cc bolus -> [**Last Name (Titles) 949**] picked up
   This AM, patient reports pain is [**2-25**], still feels that it could be
   better controlled.  No new complaints.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Voriconazole - [**2124-10-25**] 08:51 AM
   Azithromycin - [**2124-10-25**] 04:29 PM
   Acyclovir - [**2124-10-25**] 09:00 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2124-10-26**] 08:12 AM
   Enoxaparin (Lovenox) - [**2124-10-26**] 08:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-10-27**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (99
   HR: 79 (72 - 86) bpm
   BP: 94/57(65) {79/49(55) - 112/68(77)} mmHg
   RR: 13 (10 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 112.3 kg (admission): 69.3 kg
   Height: 67 Inch
             Total In:
                                                                  1,076 mL
                                                                  1,015 mL
   PO:
             TF:
                                                                    470 mL
                                                                    290 mL
   IVF:
                                                                    216 mL
                                                                    566 mL
   Blood products:
   Total out:
                                                                  1,795 mL
                                                                    513 mL
   Urine:
                                                                  1,795 mL
                                                                    313 mL
   NG:
   Stool:
   200 mL
   Drains:
   Balance:
                                                                   -719 mL
                                                                    502 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 346 (346 - 562) mL
   PS : 5 cmH2O
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 27
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: no recent ABG
   Ve: 5.6 L/min
   Physical Examination
   Gen: lying in bed, NAD, trach in place
   CV: regular rate and rhythm, S1, S2, no murmurs appreciated
   Pulm: poor air movement and coarse breath sounds anteriorly
   Abd: soft, diffusely tender, no rebound or guarding, bowel sounds
   present
   Extrem: 2+ pitting edema of lower extremities b/l, skin tears and
   erythema over all four extremities, diminished DP pulses b/l
   Labs / Radiology
   171 K/uL
   7.2 g/dL
   102 mg/dL
   0.6 mg/dL
   36 mEq/L
   4.1 mEq/L
   9 mg/dL
   104 mEq/L
   145 mEq/L
   22.7 %
   5.6 K/uL
        [image002.jpg]
                             [**2124-10-20**]  03:56 AM
                             [**2124-10-22**]  04:05 AM
                             [**2124-10-23**]  04:01 AM
                             [**2124-10-23**]  02:38 PM
                             [**2124-10-24**]  12:05 AM
                             [**2124-10-24**]  03:38 AM
                             [**2124-10-25**]  04:00 AM
                            [**2124-10-26**]  03:22 AM
                            [**2124-10-26**]  05:57 PM
                            [**2124-10-27**]  03:41 AM
   WBC
   5.1
   5.9
   6.9
   6.9
   5.1
   5.1
   5.6
   Hct
   25.8
   28.6
   26.1
   25.0
   24.0
   23.9
   22.7
   Plt
   [**Telephone/Fax (3) 11086**]
   171
   Cr
   0.6
   0.7
   0.7
   0.6
   0.6
   0.6
   0.7
   0.6
   TCO2
   44
   39
   Glucose
   123
   90
   81
   161
   68
   95
   143
   102
   Other labs: PT / PTT / INR:11.3/30.1/0.9, ALT / AST:26/32, Alk Phos / T
   Bili:411/0.2, Differential-Neuts:88.0 %, Band:2.0 %, Lymph:5.0 %,
   Mono:3.0 %, Eos:1.0 %, Lactic Acid:0.7 mmol/L, Ca++:8.0 mg/dL, Mg++:2.0
   mg/dL, PO4:2.3 mg/dL
[**2124-10-24**] 10:00 pm SPUTUM     Site: ENDOTRACHEAL
   GRAM STAIN (Final [**2124-10-25**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS.
   RESPIRATORY CULTURE (Preliminary):
         SPARSE GROWTH Commensal Respiratory Flora.
   [**2124-10-26**] Sputum Cx cancelled
   No new imaging
   Assessment and Plan
   58 yo M with history of CML treated with allogeneic stem cell
   transplant in [**2121**] and complicating graft versus host disease who
   presented from rehab following an episode of hypoxia to the 70s.
   Patient was discharged from the ICU to the high level rehab facility on
   [**2124-10-11**] and then readmitted with hypoxia.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])/HYPOXEMIA: Patient with
   underlying bronchiolitis and bronchiectasis related to GVHD and with
   multiple respiratory pathogens in recent past. Has LLL collapse and
   some RLL collapse on CT.   Finished course of antibiotics.  Now with
   Trach on ventilator.  [**Month (only) 60**] also have pulmonary edema in the setting of
   microocclusive disease
   - Switched to PS  yesterday, with RSBI 27, should do SBT again on trach
   collar after transfer to rehab
   - Continue aggressive suctioning, atrovent and albuterol nebs
   - sputum Cx from [**10-26**] cancelled.  [**10-24**] shows respiratory flora; no
   need for abx at this time
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN): Has chronic abdominal pain
   and back pain thought to be attributable to GVHD after negative prior
   work-up.  Also with multiple compression fractures on his back.
   - Continue methadone, morphine, lidocaine patches, pregabalin via PEG
   - Have switched to dilaudid PCA overnight to assess pain needs more
   accurately; has required approx 7 mg since 2 pm yesterday but states
   that his pain could still be better controlled.
   - Appreciate pain service recs; will add basal 0.6 to PCA, uptitrate as
   needed.
   - amytriptyline started
 ATRIAL FIBRILLATION (AFIB): New onset this admission, likely due to
   hypoxia and increased catecholamine surge.  More responsive to
   diltiazem than metoprolol -> changed to diltiazem.  Now has converted
   to sinus rhythm.
   - Have restarted diltiazem since has PEG
   .
 DEPRESSION: Pt has appeared withdrawn since admission, more after
   intubation/trach.
   - Have started Celexa
   .
   #. CML s/p BMTs, complicated by chronic GVHD:  At previous admission
   patient was started on a prednisone taper of 60 mg daily and had been
   titrated down to 20 mg daily.
   - Continue mycophenolate mofetil
   - Continue ppx with Bactrim, voriconazole, tobramycin, acyclovir
   - Continue azithromycin prophylaxis (500mg daily x 1 week total, then
   250mg on MWF); today is day 5
   - Continue prednisone at 20 mg daily
   .
   #. Hx of PE, DVT: Patient with multiple prior thrombotic events.
   - Continue enoxaparin 40 mg Q12H
   .
 HYPOTENSION (NOT SHOCK): Likely related to sedation and
   peri-intubation period.  Now improved and pressor stopped.
   .
   #. Fever: WBC stable and remains afebrile since admission. Empiric
   Vanc/Zosyn stopped.
   - f/u Sputum Cx
   -Trend WBC counts and fever curves
   #.  Anemia: Hct slowly trending down, likely anemia of chronic disease
   and recent procedures.  Will transfuse 1U PRBCs today and continue to
   monitor, guaiac negative per nursing.
   - Trend daily Hct
   - Guaiac stools
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2124-10-27**] 05:20 AM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2124-10-14**] 10:00 PM
   Prophylaxis:
   DVT: Lovenox
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: [**Name (NI) 167**] [**Name (NI) 10959**] (sister) [**0-0-**], cell
   phone number in pt
s room
   Code status: Full Code
   Disposition: Possible d/c to [**Hospital1 630**] if bed available today

2124-10-27 10:11:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Pain has improved. Using PCA intermittently.
   24 Hour Events:
 SPUTUM CULTURE - At [**2124-10-26**] 12:46 PM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Voriconazole - [**2124-10-25**] 08:51 AM
   Azithromycin - [**2124-10-25**] 04:29 PM
   Acyclovir - [**2124-10-25**] 09:00 PM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2124-10-27**] 08:00 AM
   Lansoprazole (Prevacid) - [**2124-10-27**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube,
   Trache
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Pain: [**1-19**] Mild
   Pain location: abdomen
   Flowsheet Data as of  [**2124-10-27**] 10:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37
C (98.6
   HR: 83 (72 - 86) bpm
   BP: 90/56(64) {79/49(55) - 112/68(77)} mmHg
   RR: 14 (11 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 112.3 kg (admission): 69.3 kg
   Height: 67 Inch
             Total In:
                                                                  1,076 mL
                                                                  1,341 mL
   PO:
             TF:
                                                                    470 mL
                                                                    481 mL
   IVF:
                                                                    216 mL
                                                                    600 mL
   Blood products:
   Total out:
                                                                  1,795 mL
                                                                    616 mL
   Urine:
                                                                  1,795 mL
                                                                    416 mL
   NG:
   Stool:
   200 mL
   Drains:
   Balance:
                                                                   -719 mL
                                                                    725 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 636 (346 - 636) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 27
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: ///36/
   Ve: 6.1 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (S1: Normal, No(t) Absent), (S2: Normal, No(t) Distant,
   No(t) Loud, No(t) Widely split , No(t) Fixed), No(t) S3, No(t) S4,
   No(t) Rub, (Murmur: Systolic, No(t) Diastolic), 2/6 SEM
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , Wheezes
   : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender: LLQ
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, Rash: GVH, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.2 g/dL
   171 K/uL
   102 mg/dL
   0.6 mg/dL
   36 mEq/L
   4.1 mEq/L
   9 mg/dL
   104 mEq/L
   145 mEq/L
   22.7 %
   5.6 K/uL
        [image002.jpg]
                             [**2124-10-20**]  03:56 AM
                             [**2124-10-22**]  04:05 AM
                             [**2124-10-23**]  04:01 AM
                             [**2124-10-23**]  02:38 PM
                             [**2124-10-24**]  12:05 AM
                             [**2124-10-24**]  03:38 AM
                             [**2124-10-25**]  04:00 AM
                            [**2124-10-26**]  03:22 AM
                            [**2124-10-26**]  05:57 PM
                            [**2124-10-27**]  03:41 AM
   WBC
   5.1
   5.9
   6.9
   6.9
   5.1
   5.1
   5.6
   Hct
   25.8
   28.6
   26.1
   25.0
   24.0
   23.9
   22.7
   Plt
   [**Telephone/Fax (3) 11086**]
   171
   Cr
   0.6
   0.7
   0.7
   0.6
   0.6
   0.6
   0.7
   0.6
   TCO2
   44
   39
   Glucose
   123
   90
   81
   161
   68
   95
   143
   102
   Other labs: PT / PTT / INR:11.3/30.1/0.9, ALT / AST:26/32, Alk Phos / T
   Bili:411/0.2, Differential-Neuts:88.0 %, Band:2.0 %, Lymph:5.0 %,
   Mono:3.0 %, Eos:1.0 %, Lactic Acid:0.7 mmol/L, Ca++:8.0 mg/dL, Mg++:2.0
   mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPOXEMIA
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 DEPRESSION
 ATRIAL FIBRILLATION (AFIB)
 HYPOTENSION (NOT SHOCK)
 ALTERATION IN NUTRITION
 GAIT, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 TRANSFERS, IMPAIRED
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 IMPAIRED SKIN INTEGRITY
   Tolerated trache mask for 2 hours yesetrday and will try longer period
   today.  Sputm cx remains underwhelming.  Likely still has some
   pulmonary edema but difficult to diurese with low BP (exacerbated by
   pain meds).  No signif SOB on trache collar and good Vt.   Remains
   afebrile with min secretions and we will not broaden abx.  Pain control
   remains an issue but seems more comfortable and did not use PCA as much
   as he could.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2124-10-27**] 05:20 AM 55 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2124-10-14**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes